2183-08-16 07:15:00 Physician Resident Progress Note
Chief Complaint: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   24 Hour Events:
   ABG showed worsening pulmonary function
   Rheumatology, Pulmonary consulted with strong suspicion for [**Doctor First Name 127**]
   presentation of ILD, AIP, NSIP over infection. Preferred course
   intubation providing opportunity for bronchoscopy determine extent
   disease/? infection while still has some respiratory reserve, husband
   raised strong objections.  If negative for infection, can start
   cyclophosphamide, begin course of therapy for ILD.
   Myositis panel of Antibodies sent with strong suspicion of
   anti-synthetase syndrome.
   ABG at 7pm showed worsened respiratory alkalosis with lactate 4.5.
   CO2 low, if starts to rise, indicates patient has tired:impending doom.
   On Solumedrol (can't take p.o with mask, just IV).
   On IV bactrim (therapeutic dose for PCP), as well as vanc/cefepime
   (was initially on doxy because levoquin can inhib growth of TB in
   culture, and if treated with levo for something else, can develop
   resistance to TB that's also present.
   Repeat ABG at 9:30 pm showed improvement 02, not much change in pH,
   PCO2 indicating not yet at point of exhaustion and bump in bicarb shows
   that with even slight increase in her pCO2 she compensates vigorously
   metabolically.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-15**] 05:59 PM
   Cefipime - [**2183-8-15**] 08:17 PM
   Vancomycin - [**2183-8-15**] 09:06 PM
   Bactrim (SMX/TMP) - [**2183-8-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-15**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 117 (73 - 117) bpm
   BP: 134/77(94) {113/68(80) - 146/93(102)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                  1,035 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                  1,035 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    795 mL
   Urine:
                                                                    555 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.50/26/211/19/0
   PaO2 / FiO2: 422
   Physical Examination
   Cardiovascular: GEN: using resp accessory muscles of respiration, face
   mask in place
   HEENT: no cervical LAD
   CV:RRR,no MRG, S1S2 WNL
   RESP:diffuse "end expiratory" velcro crackles throughout lung fields
   ABD:+bs, soft, nt, nd, no masses
   EXT:grotons papules on dorsal surface hands bilaterally, violaceous,
   scaling papules on elbows bilaterally. WWP
   Labs / Radiology
   192 K/uL
   11.2 g/dL
   123 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.9 mEq/L
   16 mg/dL
   95 mEq/L
   127 mEq/L
   32.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2183-8-15**]  06:38 PM
                             [**2183-8-15**]  10:04 PM
                             [**2183-8-16**]  03:48 AM
                             [**2183-8-16**]  06:41 AM
   WBC
   13.9
   Hct
   32.2
   Plt
   192
   Cr
   0.5
   TCO2
   21
   24
   21
   Glucose
   123
   Other labs: PT / PTT / INR:12.5/53.7/1.1, Lactic [**Year (4 digits) 7917**]:3.2 mmol/L,
   LDH:658 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Imaging: [**2183-8-15**]
   CXR
   No previous images. There is severe interstitial change diffusely
   involving both lungs, most prominent at the bases. No acute focal
   pneumonia
   or vascular congestion or cardiomegaly.
   The findings are consistent with the clinical diagnosis of
   dermatomyositis
   with severe interstitial lung disease.
   OSH CT CHEST W/CONTRAST - interval development of very severe
   infiltrates throughout both lungs with some alveolar infiltrates as
   well.
   Microbiology: Urine legionella negative.
   Legionella, bacterial, PCP, [**Name10 (NameIs) **] fast smear and culture, fungal culture
   pending, gram stain contaminated with oral secretions mrsa screen
   pending
   ECG: none
   Assessment and Plan
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Assessment and Plan: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Concern for progressive ILD vs
   infectious etiology. Basilar and pleural predominance could be
   consistent with progression of NSIP. Could also consider acute
   interstitial pneumonitis given rapidly progressive course with lack or
   response to steroids.  Given that further treatment for ILD would
   require increased immunosupression there is need to rule out underlying
   infectious etiology as contributing factor. Pt started on bactrim on
   admission for concern of PCP. [**Name10 (NameIs) **] presentation/imaging not consistent
   with common bacterial CAP, could consider atypical organism such as
   mycoplasma or legionella as well as viral etiology.
   - Check induced sputum as pt with too significant of an O2 requirement
   to undergo bronchoscopy at this time. Will send for bacterial, PCP, [**Name Initial (NameIs) 7910**]
   (Pt also reports prior history of + PPD with unclear treatment history)
   and fungal cultures
   - Continue empiric PCP treatment given rapid decompensation, CT with
   suggestive ground glass opacities, risk factor of high dose steroids
   without prophylaxis and elevated LDH. Given progressive decline, would
   change to IV bactrim pending further micro data
   - Continue ceftriaxone, will discontinue doxy and start azithromycin
   (avoiding levaquin while r/o TB) pending further culture data
   - Will increase steroids to solu-medrol 80mg IV Q 8 for concern of
   progressive ILD
   - Check glucan and galactomannan
   - Check HIV Ab to risk assess for opportunistic infection such as
   PCP/CMV, reports negative testing several weeks ago, will obtain OSH
   records
   - Consider potential fungal etiology such as histoplasma or
   coccidiomycosis however no clear recent exposure history
   - Consider anti [**Doctor First Name **]-1 antibody to evaluate for dermatomyositis assoc.
   ILD
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.
   - obtain OSH EUS results
   - workup of ILD as above
   - follow up on Rheumatology Recs
   .
   # Osteoperosis:  continue bisphosphonate, calcium, vitD
   .
   # FEN - regular diet, replete lytes PRN
   .
   # Prophy - H2 blocker, SC heparin
   .
   # Access - PIV
   .
   # Code - Full
   .
   # Dispo - pending above evaluation and treatment
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-8-15**] 03:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Given patient
s multiple recent exposures to health care setting ie
   EGD, hospitalization at [**Location (un) 839**] prior to transfer and severity of
   illness, will cover for HAP with Vanc/cefepime. Induced sputum pending.
   Pt will require bronchoscopy when respiratory status stabilized by
   either intubation or clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-8-15**] 10:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: omeprazole
   VAP: Mouth care
   Comments:
   Communication:  Comments: ICU consent not signed
   Code status: Full code
   Disposition:In ICU for now.

2183-08-16 09:31:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo women with recent dx of dermatomyositis and ILD, admitted with
   hypoxemia, SOB.  Overnight
   started on Bactrim therapy for PCP, [**Name10 (NameIs) 7919**] periodically.  On 80%
   HF oxygen.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-15**] 05:59 PM
   Cefipime - [**2183-8-15**] 08:17 PM
   Vancomycin - [**2183-8-15**] 09:06 PM
   Bactrim (SMX/TMP) - [**2183-8-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-15**] 08:17 PM
   Other medications:
   omeprazole
   vit D
   alendronate
   calcium
   bactric
   medrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-16**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 113 (73 - 117) bpm
   BP: 138/76(89) {113/68(80) - 146/93(102)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                  1,165 mL
   PO:
             TF:
   IVF:
                                                                  1,735 mL
                                                                  1,165 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    795 mL
   Urine:
                                                                    555 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,180 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.50/26/211/19/0
   PaO2 / FiO2: 422
   Physical Examination
   General Appearance: Well nourished, mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : inpiratory on left
   side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Gottron's papules
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.2 g/dL
   192 K/uL
   123 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.9 mEq/L
   16 mg/dL
   95 mEq/L
   127 mEq/L
   32.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2183-8-15**]  06:38 PM
                             [**2183-8-15**]  10:04 PM
                             [**2183-8-16**]  03:48 AM
                             [**2183-8-16**]  06:41 AM
   WBC
   13.9
   Hct
   32.2
   Plt
   192
   Cr
   0.5
   TCO2
   21
   24
   21
   Glucose
   123
   Other labs: PT / PTT / INR:12.5/53.7/1.1, Lactic Acid:3.3 mmol/L,
   Albumin:2.8 g/dL, LDH:658 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.1
   mg/dL
   Microbiology: sputum cx:  oral secretions
   induced sputum for PCP [**Name Initial (PRE) **] [**Name10 (NameIs) **] enough
   sample to run.
   Assessment and Plan
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Worsening
   oxygenation overnight.  This morning however actually feels slightly
   better.  ILD flair versus infectious PNA, most likely PCP.  [**Name10 (NameIs) **] is
   extremely unlikely given CT chest picture and given that she is not
   even
   coughing, will remove respiratory precautions.    Continue medrol 80mg
   q8h, high dose bactrim.    Will check repeat CXR, and decide
   on bronch and intubation.
   dermatomyositis:  ILD associated dermatomyositis.
   hyponatremia:  hypovolemic versus SIADH from lung process
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-8-15**] 10:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   CXR looks slightly worse, especially on Left.
   After discussion with her and her husband, explained that given that
   she is on high dose steroids and broad spectrum
   Antibiotics, we have two options:  continue to observe or intubate and
   perform bronchoscopy.   Advantage of bronchoscopy is that we will be
   able to better rule out infection, allowing us to start
   cyclophosphamide.   The downside is that there is a significant chance
   that her lung disease will not improve and she may not come off the
   ventilator.
   She said that she is wants aggressive care if it has a chance to make
   her better.  We have therefore decided that we will go ahead with
   intubation and bronchoscopy.
   CC 30minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2183-8-16**] 12:13 ------

2183-08-17 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2183-8-16**] 12:30 PM
 BRONCHOSCOPY - At [**2183-8-16**] 01:00 PM
 ARTERIAL LINE - START [**2183-8-16**] 03:43 PM
   -Maintained oxygenenation on repeat ABG's with high flow O2, but
   overnight coverage expressed concern that she was tiring.
   -Options discussed during morning rounds, and decision was made to
   intubate after rounds.
   -Bronchoscopy performed shortly after intubation, BAL performed.
   -AM labs with sodium 127, repeat PM labs with same result.
   -post-extubation gas - 7.44/33/222, FiO2 decreased from 100% to 70%,
   gas remained stable overnight
   -rheum consult advised repeat CT
   -BAL overall results still pending, but PCP back positive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-16**] 06:15 PM
   Cefipime - [**2183-8-16**] 08:00 PM
   Vancomycin - [**2183-8-16**] 09:57 PM
   Bactrim (SMX/TMP) - [**2183-8-16**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-17**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 78 (71 - 113) bpm
   BP: 108/57(74) {105/57(74) - 124/68(88)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,760 mL
                                                                    338 mL
   PO:
                                                                     30 mL
             TF:
                                                                     35 mL
                                                                    126 mL
   IVF:
                                                                  4,675 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    510 mL
   Urine:
                                                                  3,125 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,635 mL
                                                                   -172 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 725 (227 - 725) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.43/31/86.[**Numeric Identifier **]/20/-2
   Ve: 10 L/min
   PaO2 / FiO2: 124
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   10.9 g/dL
   129 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.4 mEq/L
   18 mg/dL
   98 mEq/L
   129 mEq/L
   30.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2183-8-15**]  06:38 PM
                             [**2183-8-15**]  10:04 PM
                             [**2183-8-16**]  03:48 AM
                             [**2183-8-16**]  06:41 AM
                             [**2183-8-16**]  03:24 PM
                             [**2183-8-16**]  03:31 PM
                             [**2183-8-16**]  09:10 PM
                             [**2183-8-17**]  03:30 AM
                             [**2183-8-17**]  03:46 AM
   WBC
   13.9
   14.3
   Hct
   32.2
   30.7
   Plt
   192
   201
   Cr
   0.5
   0.6
   0.6
   TCO2
   21
   24
   21
   23
   23
   21
   Glucose
   123
   109
   129
   Other labs: PT / PTT / INR:13.3/149.1/1.1, ALT / AST:72/64, Alk Phos /
   T Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, likely impending respiratory failure.  Bronchoscopy and BAL
   performed after intubation, BAL samples sent for analysis
 came back
   positive for PCP.
   [**Name Initial (NameIs) **] other cultures pending, will follow closely.
   - Continue IV Bactrim and steroids, narrow antibiotic regimen.
   - Adjust steriods dose?
   - Consider anti [**Doctor First Name **]-1 antibody to evaluate for dermatomyositis assoc.
   ILD
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   - continue workup of ILD as above
 now with known PCP infection, but
   this does not exclude the possibility of ILD as well.
   - rheumatology recommended repeat CT scan today.  Will consider,
   although recs were offered before PCP result was known.
   .
   #Hypernatremia
 sodium 127 on consecutive lab draws yesterday.
   urine osm >500
 represents SIADH
   avoid IVF except as needed for meds.
   Monitor sodium on chem 7.
   .
   # Osteoperosis:
   - continue bisphosphonate, calcium, vitD.
   - calcium low on labs, repleted.
   .
   #Elevated PTT:  PTT noted to be elevated to 120 on lab check, repeated,
   remained high.
   -no signs of bleeding
   -hold SQ heparin for now
   .
   # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds started.
   .
   # Prophy - H2 blocker, SC heparin
   .
   # Access - PIV
   .
   # Code - Full
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-16**] 08:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   20 Gauge - [**2183-8-16**] 03:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-08-17 10:33:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo women with ILD from dermatomyositis, respiratory failure.
   Intubated yesterday
   BAL + for PCP.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2183-8-16**] 12:30 PM
 BRONCHOSCOPY - At [**2183-8-16**] 01:00 PM
 ARTERIAL LINE - START [**2183-8-16**] 03:43 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-16**] 06:15 PM
   Cefipime - [**2183-8-16**] 08:00 PM
   Vancomycin - [**2183-8-16**] 09:57 PM
   Bactrim (SMX/TMP) - [**2183-8-16**] 11:53 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-16**] 08:00 PM
   Other medications:
   Vit D
   CaCO3
   bactrim 400mg q8h
   medrol 80mg q8h
   versed
   fentanyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-17**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 75 (71 - 103) bpm
   BP: 116/93(104) {105/57(74) - 124/93(104)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  4,760 mL
                                                                    467 mL
   PO:
                                                                     30 mL
             TF:
                                                                     35 mL
                                                                    208 mL
   IVF:
                                                                  4,675 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    710 mL
   Urine:
                                                                  3,125 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,635 mL
                                                                   -243 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 727 (227 - 727) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 92%
   ABG: 7.43/31/86.[**Numeric Identifier **]/20/-2
   Ve: 12 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   201 K/uL
   129 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.4 mEq/L
   18 mg/dL
   98 mEq/L
   129 mEq/L
   30.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2183-8-15**]  06:38 PM
                             [**2183-8-15**]  10:04 PM
                             [**2183-8-16**]  03:48 AM
                             [**2183-8-16**]  06:41 AM
                             [**2183-8-16**]  03:24 PM
                             [**2183-8-16**]  03:31 PM
                             [**2183-8-16**]  09:10 PM
                             [**2183-8-17**]  03:30 AM
                             [**2183-8-17**]  03:46 AM
   WBC
   13.9
   14.3
   Hct
   32.2
   30.7
   Plt
   192
   201
   Cr
   0.5
   0.6
   0.6
   TCO2
   21
   24
   21
   23
   23
   21
   Glucose
   123
   109
   129
   Other labs: PT / PTT / INR:13.3/149.1/1.1, ALT / AST:72/64, Alk Phos /
   T Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Microbiology: BAL + for PCP
   Assessment and [**Name9 (PRE) 149**]
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Hypoxemic respiratory failure:  + PCP from BAL.    Can stop
   Vanco/cefepime.  Continue Bactrim total of 21 days and continue azithro
   for 5 days.  Drop medrol down to 80mg q8h.
   Try to increase PEEP.   Although Vt is high, but she is doing this on
   minimal PS, and would be hesitant to increase sedation to accomplish
   low Vt so will continue on PS 8/5 and try
   to reduced PS to reduce Vt.
   dermatomyositis:  weaning steroids in setting of PCP
   [**Name Initial (PRE) **]:  urine osm is 537 which is inappopriately low, giving dx
   of SIADH.  Fluid restriction.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-16**] 08:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   20 Gauge - [**2183-8-16**] 03:43 PM
   Comments: PIC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2183-08-18 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 decreased to 50% this AM
   24 Hour Events:
 PICC LINE - START [**2183-8-17**] 11:00 AM
 URINE CULTURE - At [**2183-8-18**] 12:32 AM
   Cx, UA, lytes
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-16**] 09:57 PM
   Cefipime - [**2183-8-17**] 08:00 AM
   Azithromycin - [**2183-8-17**] 05:00 PM
   Bactrim (SMX/TMP) - [**2183-8-18**] 12:26 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilatoion
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-18**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 100 (73 - 100) bpm
   BP: 138/73(97) {108/55(73) - 138/106(115)} mmHg
   RR: 18 (10 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,632 mL
                                                                  1,058 mL
   PO:
             TF:
                                                                    720 mL
                                                                    369 mL
   IVF:
                                                                  1,822 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,015 mL
   Urine:
                                                                  1,720 mL
                                                                  1,015 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 852 (670 - 852) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.44/38/82.[**Numeric Identifier **]/22/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   204 K/uL
   132 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   21 mg/dL
   100 mEq/L
   131 mEq/L
   30.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2183-8-16**]  03:31 PM
                             [**2183-8-16**]  09:10 PM
                             [**2183-8-17**]  03:30 AM
                             [**2183-8-17**]  03:46 AM
                             [**2183-8-17**]  10:47 AM
                             [**2183-8-17**]  05:25 PM
                             [**2183-8-17**]  07:45 PM
                             [**2183-8-17**]  08:09 PM
                             [**2183-8-18**]  03:00 AM
                             [**2183-8-18**]  03:07 AM
   WBC
   14.3
   14.7
   13.6
   Hct
   30.7
   29.6
   30.3
   Plt
   [**Telephone/Fax (3) 7940**]
   Cr
   0.6
   0.6
   0.5
   TCO2
   23
   23
   21
   23
   23
   27
   Glucose
   129
   208
   132
   Other labs: PT / PTT / INR:11.4/63.2/0.9, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR: bilateral intersitial marking and ground glass in the
   lower lobes, R>L
   Assessment and Plan
   57 yo woman with dermatomyositis, ILD, now with respiratory failure [**1-20**]
   PCP.
   [**Name10 (NameIs) 7946**] respiratory failure/PCP: [**Name10 (NameIs) **] iv Bactrim with steroids -
   switch steroids to po.  Cont azithro.  Decrease PEEP/FIO2 as tolerated
   Dermatomyositis:  Will be on steroids for PCP for time being but will
   discuss with rheum what maintainance dose will be.  Will also need
   repeat CT scan of abdomen at some point this admission
   Hyponatremia: Improving, will continue to follow.  UOsm now lower and
   FeNa 0.7
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   20 Gauge - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Husband
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-08-18 12:51:00 Physician Resident Progress Note
Chief Complaint: Patient with no complaints this AM.
   Bactrim IV and azithromycin; cefepime and vancomycin discontinued
   On nystatin for oral thrush
   24 Hour Events:
 PICC LINE - START [**2183-8-17**] 11:00 AM
 URINE CULTURE - At [**2183-8-18**] 12:32 AM
   Cx, UA, lytes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-16**] 09:57 PM
   Cefipime - [**2183-8-17**] 08:00 AM
   Azithromycin - [**2183-8-17**] 05:00 PM
   Bactrim (SMX/TMP) - [**2183-8-18**] 12:26 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-18**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 85 (78 - 100) bpm
   BP: 117/58(79) {108/55(73) - 138/106(115)} mmHg
   RR: 11 (9 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,632 mL
                                                                  1,099 mL
   PO:
             TF:
                                                                    720 mL
                                                                    369 mL
   IVF:
                                                                  1,822 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                  1,720 mL
                                                                  1,215 mL
   Urine:
                                                                  1,720 mL
                                                                  1,215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    912 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 852 (677 - 852) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.44/38/82.[**Numeric Identifier **]/22/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   204 K/uL
   10.5 g/dL
   132 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.7 mEq/L
   21 mg/dL
   100 mEq/L
   131 mEq/L
   30.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2183-8-16**]  03:31 PM
                             [**2183-8-16**]  09:10 PM
                             [**2183-8-17**]  03:30 AM
                             [**2183-8-17**]  03:46 AM
                             [**2183-8-17**]  10:47 AM
                             [**2183-8-17**]  05:25 PM
                             [**2183-8-17**]  07:45 PM
                             [**2183-8-17**]  08:09 PM
                             [**2183-8-18**]  03:00 AM
                             [**2183-8-18**]  03:07 AM
   WBC
   14.3
   14.7
   13.6
   Hct
   30.7
   29.6
   30.3
   Plt
   [**Telephone/Fax (3) 7940**]
   Cr
   0.6
   0.6
   0.5
   TCO2
   23
   23
   21
   23
   23
   27
   Glucose
   129
   208
   132
   Other labs: PT / PTT / INR:11.4/63.2/0.9, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Microbiology: Urine culture ([**8-18**])- pending
   BAL ([**8-16**])- + for PCP. [**Name10 (NameIs) **] other BAL cultures preliminarily negative;
   Still with pending viral screen
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, likely impending respiratory failure.  Bronchoscopy and BAL
   performed after intubation, BAL samples sent for analysis
 came back
   positive for PCP.
   [**Name Initial (NameIs) **] other cultures pending, will follow closely.
   - Continue IV Bactrim until respiratory status stable
   - Continue azithromycin (today is day [**4-22**]), DC other antibiotics
   -followup other culture results
   -on pressure support. Will attempt to wean PEEP to 8 today.  O2 weaned
   to 60% with stable gas.
   -Change from solumedrol 40mg TID to prednisone 40mg [**Hospital1 **]
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   - continue workup of ILD as above
 now with known PCP infection, but
   this does not exclude the possibility of ILD as well.
   - rheumatology recommended repeat CT scan today.  Will defer for now
   given diagnosis of PCP, [**Name10 (NameIs) **] will consider if clinical status
   deteriorates.
   .
   #Hypernatremia
 sodium 131 today, up from 125 last PM. Likely initally
   due to SIADH; FeNa 0.72
   -Free water flushes Q4
   -discontinue salt tabs
   -continue to monitor sodium on chem 7.
   .
   # Osteoperosis:
   - continue bisphosphonate, calcium, vitD.
   - calcium low on labs, repleted.
   .
   #Elevated PTT:  PTT noted to come down from 120 to 60 today. Was normal
   on admission (unlikely component of Anti-phosopholipid antibodies)
   -no signs of bleeding
   -hold SQ heparin for now, re-check coags.
   .
   ICU CARE
   # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds started.
   .
   # Prophy - PPI, SC heparin currently held, Nystatin rinse
   .
   # Access
 PIV, PICC placed today, A-line
   .
   # Code - Full
   .
   # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   20 Gauge - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-08-19 07:10:00 Physician Resident Progress Note
Chief Complaint: Patient with no new complaints. Last night became
   fatigued after FiO2 was decreased.
   24 Hour Events:
   -Attempted to wean FiO2 to 50% with PaO2 at 68. Unable to ween PEEP. In
   evening, pt c/o fatigue and FiO2 increased to 60%.
   - dced resp precautions as flu neg
   - hyponatremic to 129. urine lytes done in afternoon as BUN/Cr high
   concerned for prerenal hyponatremia versus siadh. fena was 2 and urine
   osms > 800.
   - re siadh, is getting 1.5L NS/day c bactrim, cannot give in less IVF
   per pharmacy. may need to reconsider switching to PO bactrim.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-16**] 09:57 PM
   Cefipime - [**2183-8-17**] 08:00 AM
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-19**] 01:12 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2183-8-19**] 03:50 AM
   Midazolam (Versed) - [**2183-8-19**] 03:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-19**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 90 (81 - 104) bpm
   BP: 119/56(76) {110/56(22) - 140/73(97)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,805 mL
                                                                  1,121 mL
   PO:
             TF:
                                                                  1,322 mL
                                                                    294 mL
   IVF:
                                                                  2,183 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    760 mL
   Urine:
                                                                  2,475 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 689 (689 - 899) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.43/38/84.[**Numeric Identifier 1132**]/23/0
   Ve: 11 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   9.8 g/dL
   113 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   22 mg/dL
   99 mEq/L
   130 mEq/L
   28.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2183-8-17**]  10:47 AM
                             [**2183-8-17**]  05:25 PM
                             [**2183-8-17**]  07:45 PM
                             [**2183-8-17**]  08:09 PM
                             [**2183-8-18**]  03:00 AM
                             [**2183-8-18**]  03:07 AM
                             [**2183-8-18**]  01:24 PM
                             [**2183-8-18**]  03:49 PM
                             [**2183-8-19**]  03:00 AM
                             [**2183-8-19**]  03:21 AM
   WBC
   14.7
   13.6
   14.6
   Hct
   29.6
   30.3
   28.4
   Plt
   [**Telephone/Fax (3) 7957**]
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   23
   23
   27
   29
   26
   Glucose
   [**Telephone/Fax (3) 7958**]13
   Other labs: PT / PTT / INR:11.4/63.2/0.9, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: Urine lytes (9:45pm):
   Na: 177
   Cr: 34
   Osm: 819
   Imaging: CXR ([**2183-8-19**])- PICC is in mid SVC, NG in stomach, ET tube is
   4-5 cm above carina. Cardiomediastinal silhouette is stable. No
   interval change in infiltrates.
   Microbiology: [**2183-8-19**]  MRSA SCREEN MRSA SCREEN-PENDING
   [**2183-8-18**]  URINE URINE CULTURE-PENDING
   [**2183-8-16**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-negative
   (adenovirus, influenza virus, parainfluenza virus, RSV)
   [**2183-8-16**]  BRONCHOALVEOLAR LAVAGE- RESPIRATORY CULTURE-negative;
   LEGIONELLA CULTURE-PRELIMINARY(negative); Immunoflourescent test for
   Pneumocystis jirovecii (carinii)-FINAL {POSITIVE FOR PNEUMOCYSTIS
   JIROVECII (CARINII)}; FUNGAL CULTURE-PRELIMINARY (negative); ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY; VIRAL CULTURE: R/O
   CYTOMEGALOVIRUS-PRELIMINARY INPATIENT
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.
   -attempt to wean ventilator again today
 yesterday appeared to respond
   to FiO2, but did not appear PEEP-responsive.  Will reduce PEEP today to
   8.
   - discontinued respiratory precautions [**1-20**] negative viral screen and
   culture; all antibiotics stopped and finished course of azithromycin
   yesterday
   - On IV bactrim for PCP, [**Name10 (NameIs) **] will now switch to PO bactrim as it would
   provide same efficacy (there is concern over amount of fluid she is
   receiving for SIADH)
   -f/u final results of all cultures
   -On pressure support, [**4-27**]. FiO2 of 60% and stable gas. Patient did not
   tolerate decreasing FiO2 to 50% last night, but will attempt to wean
   PEEP while keeping FiO2 at 60% since she seems to have good compliance
   and not PEEP responsive
   -Continue prednisone 40mg [**Hospital1 **] for treatment of ILD.
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD as well.
   - Rheumatology recommended repeat CT scan.  Will defer for now given
   tenous respiratory status.
   .
   #Hyponatremia
 sodium 130 today, was 129 last night. Repeat Urine OSM
   >800. Likely SIADH, but received 3800mL  in fluids in past 24 hours-
   large contribution is IV bactrim. Salt tabs readded last night and
   still getting free water flushes Q4.
   -D/C free water flushes Q4
   -continue to monitor sodium on chem 7.
   -Change bactrim from IV to PO to reduce fluids with bactrim
   .
   # Osteoporosis:
   - continue bisphosphonate, calcium, vitD.
   - calcium low on labs, repleted.
   .
   #Elevated PTT:  PTT has been trending down. Was normal on admission
   (unlikely component of Anti-phosopholipid antibodies)
   -no signs of bleeding
   -restart heparin SQ [**Hospital1 **], re-check coags this afternoon with lytes.
   .
   ICU CARE
   # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds started.
   # Prophy - PPI, SC heparin, Nystatin rinse
   # Access
 PIV, PICC, A-line
   # Code - Full
   # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-19**] 03:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-8-15**] 10:46 PM
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ heparin held for now, will continue at [**Hospital1 **] dosing
   Stress ulcer:  PPI
   VAP: Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2183-08-19 10:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 increased to 0.6
   24 Hour Events:
   History obtained from icu team
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-16**] 09:57 PM
   Cefipime - [**2183-8-17**] 08:00 AM
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-19**] 01:12 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2183-8-19**] 03:50 AM
   Midazolam (Versed) - [**2183-8-19**] 03:57 AM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea, mechanical ventilation
   Flowsheet Data as of  [**2183-8-19**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 98 (81 - 115) bpm
   BP: 131/66(89) {114/56(22) - 140/73(96)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,805 mL
                                                                  1,468 mL
   PO:
             TF:
                                                                  1,322 mL
                                                                    438 mL
   IVF:
                                                                  2,183 mL
                                                                    940 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                  1,025 mL
   Urine:
                                                                  2,475 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,330 mL
                                                                    443 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 698 (689 - 899) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/38/84.[**Numeric Identifier 1132**]/23/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   206 K/uL
   113 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.9 mEq/L
   22 mg/dL
   99 mEq/L
   130 mEq/L
   28.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2183-8-17**]  10:47 AM
                             [**2183-8-17**]  05:25 PM
                             [**2183-8-17**]  07:45 PM
                             [**2183-8-17**]  08:09 PM
                             [**2183-8-18**]  03:00 AM
                             [**2183-8-18**]  03:07 AM
                             [**2183-8-18**]  01:24 PM
                             [**2183-8-18**]  03:49 PM
                             [**2183-8-19**]  03:00 AM
                             [**2183-8-19**]  03:21 AM
   WBC
   14.7
   13.6
   14.6
   Hct
   29.6
   30.3
   28.4
   Plt
   [**Telephone/Fax (3) 7957**]
   Cr
   0.6
   0.5
   0.5
   0.4
   TCO2
   23
   23
   27
   29
   26
   Glucose
   [**Telephone/Fax (3) 7958**]13
   Other labs: PT / PTT / INR:11.4/63.2/0.9, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   57 yo woman with dermatomyositis, ILD, now with respiratory failure [**1-20**]
   PCP.
   [**Name10 (NameIs) 7946**] respiratory failure/PCP: [**Name10 (NameIs) **] iv Bactrim with steroids -
   switch steroids to po.  Azithro to be D/C'd today.
   Dermatomyositis:  On steroids for PCP [**Name Initial (PRE) **] [**Name10 (NameIs) 116**] need to set a baseline
   steroid dose.  Will also need repeat CT scan of abdomen at some point
   this admission for pancreatic head mass
   Hyponatremia: Will switch Bactrim to po - continues to have high UOsm
   depsite hyponatremia.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-19**] 03:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-8-15**] 10:46 PM
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2183-08-20 07:16:00 Physician Resident Progress Note
Chief Complaint: No complaints
   24 Hour Events:
   -decision made in rounds to attempt PEEP wean today.
   -PEEP reduced from 10 to 8 in am, with stable ABG. 7.45/37/79
   -PEEP changed from 8 to 5 in afternoon, with stable ABG. 7.47/37/84
   -IV Bactrim discussed, will keep for now, switch to PO if sodium is any
   lower at PM lytes check (Na remains 130 at PM check).
   -PTT in PM 31, down from earlier elevation.  SQ heparin now [**Hospital1 **] dosing.
   -Noted to have dark residuals from NGT, heme positive.  Repeat hct
   showed now change from this morning. Residuals now green/bilious with
   flecks of red
   -H2 blocker changed to PPI.
   -Tube feeds held for overnight.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-8-17**] 08:00 AM
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-20**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-8-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-19**] 08:00 PM
   Fentanyl - [**2183-8-19**] 09:23 PM
   Pantoprazole (Protonix) - [**2183-8-19**] 09:32 PM
   Midazolam (Versed) - [**2183-8-20**] 01:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-20**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 84 (83 - 115) bpm
   BP: 116/56(77) {116/56(77) - 139/72(94)} mmHg
   RR: 15 (9 - 17) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,051 mL
                                                                    896 mL
   PO:
             TF:
                                                                    465 mL
   IVF:
                                                                  2,386 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,200 mL
   Urine:
                                                                  2,825 mL
                                                                  1,200 mL
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                   -304 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (687 - 886) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 20
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: 7.48/35/75/26/2
   Ve: 13.9 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   9.2 g/dL
   102 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   17 mg/dL
   100 mEq/L
   132 mEq/L
   26.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2183-8-18**]  01:24 PM
                             [**2183-8-18**]  03:49 PM
                             [**2183-8-19**]  03:00 AM
                             [**2183-8-19**]  03:21 AM
                             [**2183-8-19**]  11:23 AM
                             [**2183-8-19**]  03:22 PM
                             [**2183-8-19**]  04:35 PM
                             [**2183-8-19**]  08:30 PM
                             [**2183-8-20**]  03:20 AM
                             [**2183-8-20**]  03:38 AM
   WBC
   14.6
   13.7
   Hct
   28.4
   28.1
   26.2
   Plt
   206
   214
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   29
   26
   27
   28
   27
   Glucose
   134
   113
   117
   102
   Other labs: PT / PTT / INR:12.0/39.0/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: ABG:
   pH 7.48
   pCO2 35
   pO2 75
   HCO3 27
   Imaging: CXR ([**2183-8-20**]): right PICC in mid-SVC. OG tube in stomach. ET
   tube in good position. Infiltrates very mildly improved.
   Microbiology: [**2183-8-19**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2183-8-18**]  URINE URINE CULTURE-FINAL negative
   [**2183-8-16**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL negative
   [**2183-8-16**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL; LEGIONELLA CULTURE-PRELIMINARY; Immunoflourescent test
   for Pneumocystis jirovecii (carinii)-FINAL {POSITIVE FOR PNEUMOCYSTIS
   JIROVECII (CARINII)}; FUNGAL CULTURE-PRELIMINARY; ACID FAST
   SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY; VIRAL CULTURE: R/O
   CYTOMEGALOVIRUS-PRELIMINARY
   Assessment and Plan
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.
   -PEEP reduced from 10 to 5 in the past 24 hours. Now on [**4-22**]. Still at
   FiO2 of 60%. Stable gases. Consider decrease fio2 to 50% based on
   afternoon abg
   - On IV bactrim for PCP, [**Name10 (NameIs) **] not switch to PO because Sodium improving.
   Could consider switching to PO if sodium drops as PO bactrim would
   provide same efficacy.
    -f/u final results of all cultures
   -Taper prednisone to 40mg Daily for treatment of ILD. Needs steroids
   for total of 21 days, today is day 8. Appreciate rheumatology recs re:
   taper
   -If by tomorrow, no improvement in respiratory status/CXR infiltrates,
   consider CT to evaluate for a larger role of ILD in her hypoxic
   respiratory failure
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well, especially because there has been no dramatic improvement.
    - Rheumatology recommended repeat CT scan.  Will defer for now given
   respiratory status.
   .
    #Hyponatremia
 sodium 132 today, was 130 yesterday. Repeat Urine OSM
   >800. Likely SIADH is the cause. Yesterday free water flushes
   discontinued. On salt tab daily. IV bactrim not switched to PO because
   sodium was stable yesterday.
    -No need from the standpoint of hyponatremia to d/c IV bactrim.
   -continue to monitor sodium on chem 7.
   .
   #?UGIB- Patient with dark residuals that were guiac positive yesterday.
   Now resolved. Hct 26.2 this AM (baseline is 28-30).
   -after Hct check
   -H2 blocker switched to PPI
   -tube feeds currently held for high residuals; will start  reglan QID
   # Osteoporosis:
    - continue bisphosphonate, calcium, vitD.
    - calcium low on labs, repleted.
    .
   #Elevated PTT:  PTT has been trending down to 39 from 120. Was normal
   on admission (unlikely component of Anti-phosopholipid antibodies)
   -no signs of bleeding
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   ICU CARE
   # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds (currently held for high residuals). Start reglan
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse
    # Access
 PIV, PICC, A-line
    # Code - Full
    # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-08-20 10:58:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Down to PSV 5/5
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-20**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2183-8-19**] 08:00 PM
   Fentanyl - [**2183-8-19**] 09:23 PM
   Midazolam (Versed) - [**2183-8-20**] 01:54 AM
   Pantoprazole (Protonix) - [**2183-8-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-20**] 08:05 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**12-20**] Minimal
   Flowsheet Data as of  [**2183-8-20**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 104 (83 - 104) bpm
   BP: 142/71(94) {116/56(77) - 142/98(112)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,051 mL
                                                                    979 mL
   PO:
             TF:
                                                                    465 mL
   IVF:
                                                                  2,386 mL
                                                                    979 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,465 mL
   Urine:
                                                                  2,825 mL
                                                                  1,465 mL
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                    -64 mL
                                                                   -486 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 676 (676 - 886) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.48/35/75/26/2
   Ve: 11 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   214 K/uL
   102 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.8 mEq/L
   17 mg/dL
   100 mEq/L
   132 mEq/L
   26.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2183-8-18**]  01:24 PM
                             [**2183-8-18**]  03:49 PM
                             [**2183-8-19**]  03:00 AM
                             [**2183-8-19**]  03:21 AM
                             [**2183-8-19**]  11:23 AM
                             [**2183-8-19**]  03:22 PM
                             [**2183-8-19**]  04:35 PM
                             [**2183-8-19**]  08:30 PM
                             [**2183-8-20**]  03:20 AM
                             [**2183-8-20**]  03:38 AM
   WBC
   14.6
   13.7
   Hct
   28.4
   28.1
   26.2
   Plt
   206
   214
   Cr
   0.5
   0.4
   0.4
   0.4
   TCO2
   29
   26
   27
   28
   27
   Glucose
   134
   113
   117
   102
   Other labs: PT / PTT / INR:12.0/39.0/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.5 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   57 yo woman with dermatomyositis, ILD, now with respiratory failure [**1-20**]
   PCP.
   [**Name10 (NameIs) 7946**] respiratory failure/PCP: [**Name10 (NameIs) **] down to PSV 5/5 but still
   requiring high FIO2.  Continue iv Bactrim.  Continue steroids -
   decrease to 40mg daily after 5 days of steroids
   Dermatomyositis:  On steroids for PCP.  [**Name10 (NameIs) **] also need repeat CT scan
   of abdomen at some point this admission for pancreatic head mass
   Hyponatremia: Stable
   ICU Care
   Nutrition:
   Comments: tube feeds on hold for high residuals - will try Reglan
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  HOB,  mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2183-08-21 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-8-21**] 05:44 AM
    brief run SVT 170s
   -PEEP weaned and on [**4-22**]. Repeat ABG at noon stable from AM, however
   when attempted to decrease FiO2 from 60% to 50%, ABG 7.48/40/59/31, so
   increased FiO2 back to 60%
   -Had residuals of 30's to 50's, bilious and nonbloody (still heme
   positive, but repeat Hct stable). Restarted tube feeds. On reglan QID
   for high residuals.
   -On PM lytes, Na stable at 132
   -Rheum recs: suspect pt might have antisynthetase syndrome (DM+ILD) and
   would like CT chest repeated; would benefit from steroid sparing [**Doctor Last Name 23**]
   in coming weeks (did not tolerate azathioprine)
   -10pm gas 7.49/36/61/28, so increased PEEP to 8 and FiO2 to 70%; ABG
   showed 7.47/39/79/29
   -Will require CT chest tomorrow
   -at 5:30am, desat to low 90's, tachycardic to 170's for 10-15 seconds.
   Increased PEEP back to 10, FiO2 at 70%
   -EKG for tachycardia:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-21**] 02:10 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-20**] 08:05 AM
   Midazolam (Versed) - [**2183-8-20**] 05:45 PM
   Fentanyl - [**2183-8-20**] 05:45 PM
   Pantoprazole (Protonix) - [**2183-8-20**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-21**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 111 (80 - 111) bpm
   BP: 111/92(100) {111/57(74) - 142/98(112)} mmHg
   RR: 16 (10 - 18) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  2,329 mL
                                                                    708 mL
   PO:
             TF:
                                                                     70 mL
                                                                     92 mL
   IVF:
                                                                  2,229 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    585 mL
   Urine:
                                                                  3,115 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -786 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 692 (676 - 830) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 14 cmH2O
   SpO2: 91%
   ABG: 7.47/37/65/25/3
   Ve: 10.6 L/min
   PaO2 / FiO2: 93
   Physical Examination
   Gen: calm
   CV: RRR, soft systolic murmur
   Resp: course breath sounds
   Abd: soft nt
   Ext: 2+ dp b/l
   Labs / Radiology
   216 K/uL
   9.3 g/dL
   74 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   20 mg/dL
   99 mEq/L
   132 mEq/L
   26.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2183-8-20**]  03:38 AM
                             [**2183-8-20**]  02:50 PM
                             [**2183-8-20**]  02:57 PM
                             [**2183-8-20**]  04:22 PM
                             [**2183-8-20**]  06:02 PM
                             [**2183-8-20**]  10:20 PM
                             [**2183-8-20**]  11:31 PM
                             [**2183-8-21**]  03:45 AM
                             [**2183-8-21**]  03:53 AM
                             [**2183-8-21**]  05:28 AM
   WBC
   13.5
   11.7
   Hct
   27.2
   26.8
   Plt
   211
   216
   Cr
   0.4
   0.4
   TCO2
   27
   29
   31
   29
   28
   29
   28
   28
   Glucose
   115
   74
   Other labs: PT / PTT / INR:12.1/49.4/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.2 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.
   -on [**4-22**] yesterday, tolerated ok decreased fiO2 from .6 to .5 and pO2
   went from 70s to 50s so went back to .6. Increased overnight to [**4-27**]
   and FiO2 up from .6 to .7. will continue to wean PEEP and FiO2 as
   tolerated
   -worsening resp status could be [**1-20**] PCP not responsive to bactrim OR
   decreasing pred to daily yesterday was too soon in setting of ILD OR
   VAP
   -chest CT should help differentiate between above options
   -for now will continue bactrim. Will d/w ID likelihood of bactrim
   resistant PCP
   [**Name Initial (PRE) **]/u rheum
   -Normal taper prednisone to 40mg daily for treatment of ILD. Needs
   steroids for total of 21 days, today is day 9 of steroids and day 2 of
   pred 40 daily (normal severe pcp steroid course is 5d 40bid, 5d 40daily
   and 11days of 20daily).
   -cultures sent, this AM will f/u
   -holding antibiotics for now, will consider starting for VAP
   .
   # Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well, especially because there has been no dramatic improvement.
    - will check repeat CT scan, greatly appreciate rheum recs.
   .
    #Hyponatremia
 sodium 132 today. Likely SIADH is the cause. Yesterday
   free water flushes discontinued. On salt tab daily. IV bactrim not
   switched to PO because sodium was stable yesterday.
    -No need from the standpoint of hyponatremia to d/c IV bactrim.
   -continue to monitor sodium on chem 7.
   -dark urine, increased HR this morning - fluid bolus given this
   morning, will given another bolus now.
   .
   #?UGIB- Patient with dark residuals that were guiac positive, nonbloody
   guaiac pos residuals yesterdat as well. Hct 26.8 this AM
   -continue to trend hct
   -protonix [**Hospital1 **]
   -on reglan qid
   .
   #SIADH- Na holding at 130s
   -could consider switch to PO bactrim if worsening Na
   -will f/u pm labs as bloused x1 liter today
   .
   # Osteoporosis:
   - continue bisphosphonate, calcium, vitD.
    .
   #Elevated PTT:  PTT has been trending down, 49 today. Was normal on
   admission (unlikely component of Anti-phosopholipid antibodies)
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds, on raglan because had high residuals. Bloused 500cc x2
   today for high hr and dark urine
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse
    # Access
 PIV, PICC, A-line
    # Code - Full
     # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-20**] 05:00 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-08-21 12:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increasin PEEP and FIO2 requirement - now PEEP 12, FIO2 0.8
   24 Hour Events:
 EKG - At [**2183-8-21**] 05:44 AM
    brief run SVT 170s
   History obtained from icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2183-8-18**] 08:18 PM
   Bactrim (SMX/TMP) - [**2183-8-21**] 02:10 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2183-8-20**] 05:45 PM
   Fentanyl - [**2183-8-20**] 05:45 PM
   Pantoprazole (Protonix) - [**2183-8-21**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-21**] 08:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-21**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 117 (80 - 132) bpm
   BP: 126/67(84) {107/54(70) - 137/92(100)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  2,329 mL
                                                                  1,560 mL
   PO:
             TF:
                                                                     70 mL
                                                                    211 mL
   IVF:
                                                                  2,229 mL
                                                                  1,349 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                  1,010 mL
   Urine:
                                                                  3,115 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -786 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 749 (576 - 791) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.45/41/86/25/3
   Ve: 10.6 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   216 K/uL
   74 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   20 mg/dL
   99 mEq/L
   125 mEq/L
   26.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2183-8-20**]  02:57 PM
                             [**2183-8-20**]  04:22 PM
                             [**2183-8-20**]  06:02 PM
                             [**2183-8-20**]  10:20 PM
                             [**2183-8-20**]  11:31 PM
                             [**2183-8-21**]  03:45 AM
                             [**2183-8-21**]  03:53 AM
                             [**2183-8-21**]  05:28 AM
                             [**2183-8-21**]  06:36 AM
                             [**2183-8-21**]  09:30 AM
   WBC
   11.7
   Hct
   26.8
   Plt
   216
   Cr
   0.4
   TCO2
   29
   31
   29
   28
   29
   28
   28
   27
   29
   Glucose
   74
   Other labs: PT / PTT / INR:12.1/49.4/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   57 yo woman with dermatomyositis, ILD, now with respiratory failure [**1-20**]
   PCP.  [**Name10 (NameIs) **] with worsening PEEP/FIO2 requirement
   Hypoxemic respiratory failure/PCP: [**Name10 (NameIs) 8024**] PEEP and FIO2.  Ongoing
   fevers.  Will look at CT scan.  ID to consult --> ? PCP not responsive
   to Bactrim.  Continue prednisone 40mg daily.
   Dermatomyositis:  On steroids for PCP.  [**Name10 (NameIs) **] prednisone 40mg daily -->
   may need to increase if evidence of alvelitis on new CT scan
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-21**] 08:41 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-08-22 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-21**] 10:30 AM
 URINE CULTURE - At [**2183-8-21**] 10:30 AM
 BLOOD CULTURED - At [**2183-8-21**] 10:02 PM
   3 sets sent-- from PICC, aline and peripheral
 URINE CULTURE - At [**2183-8-21**] 10:02 PM
 FEVER - 101.2
F - [**2183-8-21**] 10:00 AM
   -CT looked worse, no consolidation though
   -gave 1g salumedrol. per rheum this is day [**2-18**] because has gotten 1g
   twice in the recent past. they will recommend dose of salumedrol
   tomorrow based on clinical picture. NO STEROIDS ORDERED FOR [**Doctor First Name **]... NEED
   TO DISCUSS ON ROUNDS WHETHER WE WANT TO RESTART SALUMEDROL 125 TID
   WHILE AWAITING RHEUM RECS FOR THE DAY
   -spiking low grade temps
   -ID consulted... recommends:
   1. Continue TMP/SMX, dosage of 20 mg/kg divided q8
   2. Pan-cx (including all lines) for super-imposed bacterial inf (bcx
   from am sent but never recieved from lab, resent cx off both lines and
   new peripheral stick)
   3. Re-bronch, repeat fungal cx and AFB (? whether we can do this)
   4. Empiric tx of bacterial PNA, including vanc, cefepime, cipro (done)
   5. Send urine and stool for strongyloides, treating with Ivermectin if
   positive (sent stool, could not figure out urine strongy....)
   6. CMV viral load (ordered)
   7. viral cx (ordered)
   -pt looked tired, using accessory muscles, tried to switch to AC but
   was [**Last Name (LF) 8042**], [**First Name3 (LF) **] put back on psv
   -tach to the 110s, rechecked abg and pO2 down. will increase FiO2 to 80
   to try to give her a bit of a rest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-8-21**] 10:01 PM
   Vancomycin - [**2183-8-21**] 10:36 PM
   Ciprofloxacin - [**2183-8-21**] 11:45 PM
   Bactrim (SMX/TMP) - [**2183-8-22**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-21**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 100 (85 - 132) bpm
   BP: 113/58(76) {101/51(68) - 126/67(84)} mmHg
   RR: 20 (9 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,134 mL
                                                                  1,009 mL
   PO:
             TF:
                                                                    510 mL
                                                                    247 mL
   IVF:
                                                                  3,594 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    615 mL
   Urine:
                                                                  2,095 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,039 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 991 (617 - 991) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.40/39/107/26/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 134
   Physical Examination
   Gen: sedated
   CV: RRR soft systolic murmur
   Resp cta anteriorly
   Abd nontender
   Ext 2+DP pulses b/l
   Labs / Radiology
   203 K/uL
   8.9 g/dL
   220 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   133 mEq/L
   25.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2183-8-21**]  03:53 AM
                             [**2183-8-21**]  05:28 AM
                             [**2183-8-21**]  06:36 AM
                             [**2183-8-21**]  09:30 AM
                             [**2183-8-21**]  02:59 PM
                             [**2183-8-21**]  03:09 PM
                             [**2183-8-21**]  06:42 PM
                             [**2183-8-22**]  01:27 AM
                             [**2183-8-22**]  01:35 AM
                             [**2183-8-22**]  03:18 AM
   WBC
   11.4
   Hct
   25.8
   Plt
   203
   Cr
   0.5
   0.4
   TCO2
   28
   28
   27
   29
   25
   29
   26
   25
   Glucose
   180
   220
   Other labs: PT / PTT / INR:13.0/55.8/1.1, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.
   -still on PSV but FiO2 up to 0.8
   -worsening resp status for past few days and chest CT looks worse.
   Concerned for pna versus worsening ILD
   -continue bactrim
   -f/u rheum recs
   -got solumedrol 1g yesterday, will start 125 TID today, pending rheum
   recs
   -cultures sent, this AM will f/u
   -on VAP abx now in addition to Bactrim
   -still having large tidal volumes, increased sedation but tidal volumes
   remain elevated.
   -will attempt trial of AC this morning for lower tidal volumes.
   -paralysis could be another option to achieve low tidal volumes, but
   given risk with large concurrent steroid doses, not appropriate now.
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -continue Solumedrol 125 IV Q8
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well.  Not responding appropriately to Bactrim, now worsening.
    - repeat CT worse, greatly appreciate rheum recs.
   .
    #Hyponatremia
 sodium 133 today. Likely SIADH is the cause. Yesterday
   free water flushes discontinued. On salt tab daily. IV bactrim not
   switched to PO because sodium was stable yesterday.
   -No need from the standpoint of hyponatremia to d/c IV bactrim.
   -continue to monitor sodium on chem 7 daily.
   -dark urine, increased HR this morning - fluid bolus given this
   morning, will given another bolus now.
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT:  PTT has been trending down, 49 today. Was normal on
   admission (unlikely component of Anti-phosopholipid antibodies)
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds, on raglan because had high residuals. Bloused 500cc x2
   today for high hr and dark urine
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse
    # Access
 PICC, A-line
    # Code - Full
     # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-22**] 06:57 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2183-08-22 10:41:00 Physician Attending Progress Note
Chief Complaint: Rspiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Got 1gm iv solumedrol yesterday for diffuse ground glass on CT
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-21**] 10:30 AM
 URINE CULTURE - At [**2183-8-21**] 10:30 AM
 BLOOD CULTURED - At [**2183-8-21**] 10:02 PM
   3 sets sent-- from PICC, aline and peripheral
 URINE CULTURE - At [**2183-8-21**] 10:02 PM
 FEVER - 101.2
F - [**2183-8-21**] 10:00 AM
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-8-21**] 11:45 PM
   Bactrim (SMX/TMP) - [**2183-8-22**] 02:00 AM
   Cefipime - [**2183-8-22**] 09:00 AM
   Vancomycin - [**2183-8-22**] 09:31 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-21**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-21**] 08:03 PM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-22**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 102 (85 - 117) bpm
   BP: 123/66(84) {101/51(68) - 126/67(84)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,134 mL
                                                                  1,483 mL
   PO:
             TF:
                                                                    510 mL
                                                                    355 mL
   IVF:
                                                                  3,594 mL
                                                                  1,068 mL
   Blood products:
   Total out:
                                                                  2,095 mL
                                                                    740 mL
   Urine:
                                                                  2,095 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,039 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 680 (671 - 991) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   SpO2: 92%
   ABG: 7.40/39/107/26/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: Scattered)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   203 K/uL
   220 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   133 mEq/L
   25.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2183-8-21**]  03:53 AM
                             [**2183-8-21**]  05:28 AM
                             [**2183-8-21**]  06:36 AM
                             [**2183-8-21**]  09:30 AM
                             [**2183-8-21**]  02:59 PM
                             [**2183-8-21**]  03:09 PM
                             [**2183-8-21**]  06:42 PM
                             [**2183-8-22**]  01:27 AM
                             [**2183-8-22**]  01:35 AM
                             [**2183-8-22**]  03:18 AM
   WBC
   11.4
   Hct
   25.8
   Plt
   203
   Cr
   0.5
   0.4
   TCO2
   28
   28
   27
   29
   25
   29
   26
   25
   Glucose
   180
   220
   Other labs: PT / PTT / INR:13.0/55.8/1.1, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   57 yo woman with dermatomyositis, ILD, now with respiratory failure [**1-20**]
   PCP.  [**Name10 (NameIs) **] with worsening PEEP/FIO2 requirement over last 2 days.
   Hypoxemic respiratory failure/PCP: [**Name Initial (NameIs) **] 1gm of solumedrol yesterday for
   potential dermatomyosistis [**1-20**] ILD.  Will give 120mg Solmedrol q8 hrs
   for now.  Cont cipro/cefepime/vanco
   PCP: [**Name10 (NameIs) **] now following.  They recommend staying with Bactrim
   Dermatomyositis:  Steroids as above.  Rheumatology following.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-22**] 06:57 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-08-23 06:14:00 Physician Resident Progress Note
Chief Complaint: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure.
   24 Hour Events:
   -Urine becoming progressively darker, UA showed large blood, no
   evidence for infection.
   -O2 requirements increased in the morning, changed from 70% to 80%
   FiO2.
   -Switched to AC in the evening with improved ABG, oxygen adjusted
   several times with varying ABG's.
   -Persistently tachycardic overnight, unresponsive to fluid bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-22**] 09:31 AM
   Ciprofloxacin - [**2183-8-22**] 10:08 AM
   Cefipime - [**2183-8-22**] 09:51 PM
   Bactrim (SMX/TMP) - [**2183-8-23**] 01:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-23**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 113 (98 - 121) bpm
   BP: 122/70(87) {107/56(71) - 135/72(91)} mmHg
   RR: 30 (9 - 31) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.9 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  3,394 mL
                                                                    968 mL
   PO:
             TF:
                                                                  1,141 mL
                                                                    272 mL
   IVF:
                                                                  2,193 mL
                                                                    696 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                    405 mL
   Urine:
                                                                  1,360 mL
                                                                    405 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  2,029 mL
                                                                    563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 736 (680 - 1,030) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 65%
   PIP: 25 cmH2O
   SpO2: 91%
   ABG: 7.37/46/69/24/0
   Ve: 9.9 L/min
   PaO2 / FiO2: 106
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   235 K/uL
   8.0 g/dL
   156 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   134 mEq/L
   23.4 %
   16.0 K/uL
        [image002.jpg]
                             [**2183-8-22**]  11:52 AM
                             [**2183-8-22**]  05:20 PM
                             [**2183-8-22**]  06:50 PM
                             [**2183-8-22**]  08:55 PM
                             [**2183-8-23**]  12:04 AM
                             [**2183-8-23**]  12:53 AM
                             [**2183-8-23**]  03:04 AM
                             [**2183-8-23**]  04:07 AM
                             [**2183-8-23**]  04:28 AM
                             [**2183-8-23**]  06:00 AM
   WBC
   16.0
   Hct
   23.4
   Plt
   235
   Cr
   0.4
   TCO2
   26
   27
   27
   28
   22
   28
   28
   26
   28
   Glucose
   156
   Other labs: PT / PTT / INR:11.8/45.2/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:2.2 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.
   -on AC overnight, initially improved oxygen sats - tried to wean FiO2,
   but unable to get below 70%
   -worsening resp status for past few days and chest CT looks worse.
   Concerned for pna versus worsening ILD
   -continue bactrim
   -f/u rheum recs
   -now on solumendrol 125 mg IV Q8
   -followup pending cultures
   -on VAP abx now in addition to Bactrim
 vanco, cefepime, cipro.
   -still having large tidal volumes, increased sedation but tidal volumes
   remain elevated.
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -continue Solumedrol 125 IV Q8
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well.  Not responding appropriately to Bactrim, now worsening.
    - repeat CT worse, appreciate rheum recs.
   .
    #Hyponatremia
 improving, sodium 134 today. Likely SIADH had been the
   cause for low sodium, but improving. Free water flushes discontinued.
   On salt tab daily. Remains on IV Bactrim.
   -No need from the standpoint of hyponatremia to d/c IV bactrim.
   -continue to monitor sodium on chem 7 daily.
   -dark urine, increased HR overnight.  Fluid bolus given, without
   significant response.  Will send protein/creatinine ratio to further
   evaluate.
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT:  PTT has been trending down, 49 today. Was normal on
   admission (unlikely component of Anti-phosopholipid antibodies)
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds at goal. Bloused 500cc x2 yesterday for high hr and dark
   urine, then again x1 overnight.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse
    # Access
 PICC, A-line
    # Code - Full
     # Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 7947**] has had a mild decrease in FiO2 needs over the past 24 hours
   with ARDS net ventilation. Her CXR also shows mild clearing of ASD in
   right lung. However given the presence of a fever on current therapy
   and high dose steroids, we will perform repeat BAL to guide antibiotic
   change . BAL will be sent for PCP, [**Name10 (NameIs) 7910**], fungal stains and O&P in
   addition to regular pathogens. Husband has been updated regarding her
   condition. Appreciate ID and rheumatology staff input.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2183-8-23**] 18:31 ------

2183-08-24 06:30:00 Physician Resident Progress Note
Chief Complaint: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) **]
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-23**] 10:36 AM
 URINE CULTURE - At [**2183-8-23**] 10:36 AM
 SPUTUM CULTURE - At [**2183-8-23**] 11:31 AM
 BRONCHOSCOPY - At [**2183-8-23**] 03:30 PM
 EKG - At [**2183-8-24**] 05:03 AM
   run of sinus tach
 FEVER - 102.0
F - [**2183-8-23**] 02:00 PM
   -febrile with increased resp support and leukocytosis. Added on
   micafungin 100mg IV daily, continue Bactrim (may consider primaquine in
   future...). Aspergillus galactomannan pending.
   -BAL done- sent O&P, AFB, PCP, [**Name Initial (NameIs) 8111**]. the lab refused to run the PCP
   and AFB today. Said they could do it first thing in the AM & we will
   have the results by mid-morning to early afternoon. Said parasitology
   lab closed until Tuesday. [Still suspicious for strongyloides, which
   takes 10 days to come back] So, I attempted to contact someone from
   pathology to take a look. No clinical pathology fellow on over the
   weekend. Paged regular pathology resident twice, who didn't answer.
   Should try again in the AM. Also, could ask renal to spin down urine to
   see if any strongyloides in it (should be blatant).
   -Vancomycin levels <2. Redosed to 1250mg Q8. Will need to recheck
   trough.
   -Hct is about 23. Transfusion threshold is Hct<21.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-23**] 04:14 PM
   Cefipime - [**2183-8-23**] 10:23 PM
   Ciprofloxacin - [**2183-8-23**] 11:30 PM
   Bactrim (SMX/TMP) - [**2183-8-24**] 01:22 AM
   Vancomycin - [**2183-8-24**] 05:50 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 22 mg/hour
   Other ICU medications:
   Fentanyl - [**2183-8-23**] 03:30 PM
   Midazolam (Versed) - [**2183-8-23**] 03:30 PM
   Pantoprazole (Protonix) - [**2183-8-23**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-23**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-24**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37
C (98.6
   HR: 99 (97 - 120) bpm
   BP: 122/60(80) {112/55(74) - 134/95(106)} mmHg
   RR: 21 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.9 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,415 mL
                                                                    978 mL
   PO:
             TF:
                                                                    951 mL
                                                                     50 mL
   IVF:
                                                                  3,304 mL
                                                                    928 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                    425 mL
   Urine:
                                                                  1,530 mL
                                                                    425 mL
   NG:
                                                                    320 mL
   Stool:
   Drains:
   Balance:
                                                                  2,565 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 65%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.38/46/110/27/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 169
   Physical Examination
   Gen: inutbated, sedated
   Cv: rrr soft systolic murmur
   Resp; course breath sounds
   Abd: soft +BS
   Ext: 2+ DP b/l
   Labs / Radiology
   213 K/uL
   7.9 g/dL
   128 mg/dL
   0.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   135 mEq/L
   23.5 %
   15.7 K/uL
        [image002.jpg]
                             [**2183-8-23**]  06:00 AM
                             [**2183-8-23**]  07:55 AM
                             [**2183-8-23**]  09:23 AM
                             [**2183-8-23**]  02:41 PM
                             [**2183-8-23**]  02:50 PM
                             [**2183-8-23**]  05:50 PM
                             [**2183-8-23**]  08:25 PM
                             [**2183-8-23**]  11:12 PM
                             [**2183-8-24**]  03:08 AM
                             [**2183-8-24**]  05:13 AM
   WBC
   15.7
   Hct
   23.2
   23.5
   Plt
   213
   Cr
   0.3
   TCO2
   28
   26
   28
   27
   29
   28
   28
   28
   Glucose
   128
   Other labs: PT / PTT / INR:11.8/45.2/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:705 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) **]
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other [**Name10 (NameIs) 8111**] preliminarily negative.
   -continue AC
   -worsening resp status for past few days and chest CT looks worse.
   Concerned for pna versus worsening ILD versus severe PCP versus PCP not
   sensitive to bactrim though this is very rare
   -continue bactrim
   -f/u rheum recs, salumedrol taper
   -f/u ID recs
   -followup pending [**Name10 (NameIs) 8111**]
   -on VAP abx and micofungin in addition to Bactrim
 vanco, cefepime,
   cipro.
   -on ardsnet vent settings still having large tidal volumes, increased
   sedation but tidal volumes remain elevated.
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -wean salumedrol to 80 TID, consider weaning further tomorrow
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well.  Not responding appropriately to Bactrim, now worsening.
    - repeat CT worse, appreciate rheum recs.
   .
    #Hyponatremia
 improving, sodium 134 today. Likely SIADH had been the
   cause for low sodium, but improving. Free water flushes discontinued.
   On salt tab daily. Remains on IV Bactrim.
   -continue [**Hospital1 **] lytes
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT: 45 today
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds at goal. Bloused 500cc x2 yesterday for high hr and dark
   urine, then again x1 overnight.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse
    # Access
 PICC, A-line
    # Code - Full
      # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-24**] 01:22 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 7947**] has had a slow improvement in her PaO2 over the past 24 hours
   and a clear improvement in her CXR over the past 72 hours despite
   fevers. She has been started on antifungal Rx and her BAL continues to
   show a high burden of PCP. [**Name Initial (NameIs) **] am doubtful we are dealing with bactrim
   failure (as yet) and would recommend holding the course on current
   antibiotic regimen but decreasing her steroid dosage to preclude
   problems with myopathy. We will await BAL culture for fungal/ AFB at
   this time too. We will slowly continue to wean her FiO2 as we target
   plateau pressures at end inspiration of less than 35 cms with sedation.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2183-8-24**] 14:46 ------

2183-08-25 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ABG of 7.39/47/63, increased FiO2 to .65, and then 7.42/41/56 at 9p,
   FiO2 increased again to .7 but gas was 7.42/40/58 so increased FiO2 to
   .75 and switched back to PSV at 5/12 c pO2 increase to 70 initial abg
   reassuring however started to get tachypneic and tachy and pulled
   smaller tidal volumes so switched back to ac early this morning
   -salumedrol decreased to 80 tid, consider decrease again tomorrow, may
   need to d/w rheum
   -pm hct stable
   -ID still considering switching to pentamidine
   -rheum recs: nothing new
   -ID concerned about pt's eye care. ordered artificial tears... don't
   know if there are other things to order
   -husband not around, sister updated
   -did not get a chance to spin urine for strongy
   -LDH in 800s yesterday, 1200s today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-8-23**] 11:30 PM
   Micafungin - [**2183-8-24**] 04:30 PM
   Vancomycin - [**2183-8-24**] 10:00 PM
   Cefipime - [**2183-8-24**] 10:00 PM
   Bactrim (SMX/TMP) - [**2183-8-25**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-24**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-25**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 125 (96 - 136) bpm
   BP: 160/78(105) {118/59(76) - 160/78(105)} mmHg
   RR: 20 (9 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.9 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  2,795 mL
                                                                    813 mL
   PO:
             TF:
                                                                    416 mL
                                                                    176 mL
   IVF:
                                                                  2,289 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    540 mL
   Urine:
                                                                  1,625 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,170 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 840 (840 - 840) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/39/62/25/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 83
   Physical Examination
   Gen: intubated, sedated
   Resp: course breath sounds
   Cv: soft systolic murmur
   Abd: distended, +BS
   Ext: 2+DP b/l, nonpitting edema in feet
   Labs / Radiology
   202 K/uL
   7.9 g/dL
   151 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   18 mg/dL
   100 mEq/L
   132 mEq/L
   23.6 %
   19.4 K/uL
        [image002.jpg]
                             [**2183-8-24**]  12:27 PM
                             [**2183-8-24**]  02:46 PM
                             [**2183-8-24**]  03:39 PM
                             [**2183-8-24**]  05:56 PM
                             [**2183-8-24**]  08:56 PM
                             [**2183-8-24**]  10:46 PM
                             [**2183-8-24**]  10:55 PM
                             [**2183-8-25**]  01:50 AM
                             [**2183-8-25**]  03:07 AM
                             [**2183-8-25**]  05:45 AM
   WBC
   19.4
   Hct
   23.0
   23.9
   23.6
   Plt
   202
   Cr
   0.4
   TCO2
   30
   28
   29
   28
   27
   26
   25
   Glucose
   151
   Other labs: PT / PTT / INR:11.8/45.2/1.0, ALT / AST:72/64, Alk Phos / T
   Bili:53/0.2, Lactic Acid:1.7 mmol/L, Albumin:2.8 g/dL, LDH:1347 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna [**Name Initial (PRE) **] continuing difficulties c
   oxygenation
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Bronchoscopy and BAL performed after
   intubation, BAL samples sent for analysis
 came back positive for PCP,
   [**Name10 (NameIs) **] other cultures preliminarily negative.  Continues to be hypoxic c
   high A-a gradient. Also has rising LDH. DDx for continued hypoxic resp
   failure includes severe but resolving PCP [**Name Initial (PRE) **] PCP resistant to bactrim v
   typical pna v worsening ILD, no e/o volume overload on am cxr
   -continue bactrim, f/u ID recs
 consider adding pentamidine today
   given stable to worsening resp status.
   -check LDH tomorrow as has been rising quickly
   -f/u rheum recs, ask about salumedrol taper in setting of somewhat
   worsening resp status
   -on VAP abx and micofungin in addition to Bactrim
 vanco, cefepime,
   cipro.
   -f/u pending cx
   -spin urine for strongy
   -keep on AC today, increase sedation to reduce dyssynchrony with
   ventilator.
   -consider esophageal balloon placement to better evaluate pressures.
   -replete phos
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -solumedrol to 80 TID, will need to weigh risks (worsening resp
   failure) with benefits of further weaning of steroids today, would d/w
   rheum before weaning further.
    - Continue workup/treatment of ILD as above
 now with known PCP
   infection, but this does not exclude the possibility of ILD worsening
   as well.  Not responding appropriately to Bactrim, now worsening.
    - repeat CT worse, appreciate rheum recs.
   .
   # leg edema: cxr does not look fluid overloaded. Will check b/l LENI
   to r/o PE. Consider PECT.
    #Hyponatremia
 sodium 132 today, will continue to trend. Likely SIADH
   had been the cause for low sodium, but improving. Remains on IV
   Bactrim.
   -continue to trend
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT: 45 today
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   #anemia: continue to trend. transfusing goal of 22. keep active type
   and screen
   .
   #Eye care
 start erythromycin ophthalmic ointment, tape eyes to keep
   closed.
   .
   Constipation: one small bm yesterday per nsg. Change lactulose to
   standing dose, soap suds enema today.
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds at goal. Bloused 500cc x2 yesterday for high hr and dark
   urine, then again x1 overnight.  Replete electrolytes PRN.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse.
    # Access
 PICC, A-line
    # Code - Full
      # Dispo - ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-24**] 11:27 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-24**] 06:58 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had a decline in oxygenation over past 24 hours with continued
   fevers and mild reduction in steroids. BAL shows persistent PCP and AFB
   stains are pending. Her CXR does not show worsening in right lung but
   left base may appear slightly worse. She needs improved sedation. If we
   are unable to keep FiO2 needs stable despite this, we will repeat chest
   CT with PE protocol to r/o PE as potential etiology for decline. I
   would concur with ID staff regarding switching to alternative
   medications for PCP at this time. We will follow LFT
s / lipase closely
   if pentamidine is selected.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2183-8-25**] 14:40 ------

2183-08-26 05:28:00 Physician Resident Progress Note
Chief Complaint: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna with continuing difficulties
   with oxygenation.
   24 Hour Events:
 ULTRASOUND - At [**2183-8-25**] 11:03 AM
   LENI'S
   -LENI
s negative yesterday, CT showed worsening diffuse disease
   -constipated- gave soap suds enema and lactulose TID standing
   -switched to pentamidine, dc'd bactrim per ID as CT chest worsened
   -Vent directions per attg overnight:
   -Need to increase midaz and fentanyl to reduce insp tugg
   -target paO2 55% (go up on FiO2 to meet this)
   -target pH of at least 7.30
   -allow pCO2 to drift (permissive hypercapnia)
   -tomorrow am drop balloon or drop if unless PEEP need increases tonight
   -sequence of ABGs overnight...
   on vent settings of 75%, 450, 28, 14
   7.37/53/58  1840
   7.38/54/68  [**2193**]
   7.36/55/74  2320
   7.41/54/71  0410
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2183-8-25**] 10:30 AM
   Micafungin - [**2183-8-25**] 05:08 PM
   Cefipime - [**2183-8-25**] 08:21 PM
   Vancomycin - [**2183-8-25**] 08:51 PM
   Ciprofloxacin - [**2183-8-26**] 12:20 AM
   Infusions:
   Midazolam (Versed) - 20 mg/hour
   Propofol - 70 mcg/Kg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-8-25**] 05:42 PM
   Pantoprazole (Protonix) - [**2183-8-25**] 08:50 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-25**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-26**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.3
   HR: 104 (99 - 122) bpm
   BP: 110/55(72) {110/55(72) - 154/77(101)} mmHg
   RR: 28 (10 - 32) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.1 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,447 mL
                                                                    823 mL
   PO:
             TF:
                                                                    960 mL
                                                                    219 mL
   IVF:
                                                                  3,357 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                  1,020 mL
   Urine:
                                                                  3,910 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    537 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 14 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, No Spon Resp
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 91%
   ABG: 7.41/54/71//7
   Ve: 12 L/min
   PaO2 / FiO2: 95
   Physical Examination
   Intubated, heavily sedated, unresponsive to sternal rub
   Coarse inspiratory breath sounds bilaterally throughout anterior lung
   fields
   RRR, 1/6 systolic murmur.
   Abdomen soft, non-distended, +BS
   Labs / Radiology
   168 K/uL
   7.3 g/dL
   151 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   18 mg/dL
   100 mEq/L
   132 mEq/L
   21.2 %
   17.4 K/uL
        [image002.jpg]
                             [**2183-8-25**]  05:45 AM
                             [**2183-8-25**]  09:47 AM
                             [**2183-8-25**]  02:52 PM
                             [**2183-8-25**]  03:02 PM
                             [**2183-8-25**]  04:05 PM
                             [**2183-8-25**]  06:42 PM
                             [**2183-8-25**]  08:23 PM
                             [**2183-8-25**]  11:21 PM
                             [**2183-8-26**]  03:54 AM
                             [**2183-8-26**]  04:09 AM
   WBC
   17.4
   Hct
   24.9
   21.2
   Plt
   168
   TCO2
   25
   28
   30
   31
   32
   33
   32
   35
   Other labs: PT / PTT / INR:11.8/45.2/1.0, ALT / AST:126/177, Alk Phos /
   T Bili:91/0.2, Amylase / Lipase:29/18, Lactic Acid:2.4 mmol/L,
   Albumin:2.8 g/dL, LDH:1347 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna [**Name Initial (PRE) **] continuing difficulties c
   oxygenation
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  BAL positive for PCP x2, though on 2nd
   sample the number of organisms seen was noticeably reduced.  Clinical
   condition is not improving, however, and repeat CT scan yesterday
   looked worse than previous.  Stable overnight on vent settings, with
   increased sedation.
   -switched from Bactrim to pentamidine yesterday evening after CT showed
   interval worsening.
   -LDH today
   -rheum continues to follow
   -on VAP abx and micafungin in addition to pentamidine
 vanco,
   cefepime, cipro.
   -continue to follow pending cultures
   -On AC overnight with PEEP 14, FiO2 75%, RR 28.  Gases stable, FiO2
   improved early in evening, then stabilized. More synchronous with
   increased sedation and addition of propofol.
   -Esophageal balloon placement today to allow for optimization of
   pressures.
   -will speak to husband about possible trach in future (now day 11 of
   intubation)
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -solumedrol to 80 TID, will consider weaning further today.  Also
   consider adding cytoxan since very little improvement on CT. appreciate
   rheum recs.
    - Continue workup/treatment of ILD as above.
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative.
   -CTA performed yesterday, will follow up on final read.
    #Hyponatremia
 sodium 135 today, improved. Likely SIADH had been the
   cause for low sodium, but improving now.
   -continue to trend
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT: 45 today
   -heparin SQ [**Hospital1 **]
   -trend coags
   .
   #anemia:  HCT 21 today, down from yesterday.  Guiac positive stool
   today. No signs of active bleeding.
   -will transfuse one unit
   -Q8 Hct checks
   .
   #Eye care
 started erythromycin ophthalmic ointment, taped eyes to
   keep closed.
   .
   Constipation: one small bm 2 days ago per nsg. Lactulose changed to
   standing dose, soap suds enema yesterday.  No stool output, but
   increased bowel sounds.  Continue to follow closely.
   .
   ICU CARE
    # FEN
 IV fluids held except as necessary for meds, due to SIADH.
   Tube feeds at goal. Bloused 500cc x2 yesterday for high hr and dark
   urine, then again x1 overnight.  Will give lasix for goal of -500.
   Replete electrolytes PRN.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse.
    # Access
 PICC, A-line
    # Code - Full
      # Dispo
 ICU; Sw consult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2183-08-26 08:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bactrim switched to pentamidine
   Repeat CT scan yesterday
   24 Hour Events:
 ULTRASOUND - At [**2183-8-25**] 11:03 AM
   LENI'S
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2183-8-25**] 10:30 AM
   Micafungin - [**2183-8-25**] 05:08 PM
   Cefipime - [**2183-8-25**] 08:21 PM
   Vancomycin - [**2183-8-25**] 08:51 PM
   Ciprofloxacin - [**2183-8-26**] 12:20 AM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Propofol - 70 mcg/Kg/min
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-8-25**] 05:42 PM
   Pantoprazole (Protonix) - [**2183-8-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-26**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-26**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 93 (93 - 122) bpm
   BP: 116/54(73) {109/50(68) - 154/77(101)} mmHg
   RR: 27 (14 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,447 mL
                                                                  1,215 mL
   PO:
             TF:
                                                                    960 mL
                                                                    388 mL
   IVF:
                                                                  3,357 mL
                                                                    827 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                  1,620 mL
   Urine:
                                                                  3,910 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    537 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (400 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, No Spon Resp
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 92%
   ABG: 7.41/54/71/31/7
   Ve: 12 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General Appearance: No acute distress, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   168 K/uL
   121 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   14 mg/dL
   98 mEq/L
   135 mEq/L
   21.2 %
   17.4 K/uL
        [image002.jpg]
                             [**2183-8-25**]  05:45 AM
                             [**2183-8-25**]  09:47 AM
                             [**2183-8-25**]  02:52 PM
                             [**2183-8-25**]  03:02 PM
                             [**2183-8-25**]  04:05 PM
                             [**2183-8-25**]  06:42 PM
                             [**2183-8-25**]  08:23 PM
                             [**2183-8-25**]  11:21 PM
                             [**2183-8-26**]  03:54 AM
                             [**2183-8-26**]  04:09 AM
   WBC
   17.4
   Hct
   24.9
   21.2
   Plt
   168
   Cr
   0.3
   TCO2
   25
   28
   30
   31
   32
   33
   32
   35
   Glucose
   121
   Other labs: PT / PTT / INR:11.8/45.2/1.0, ALT / AST:126/177, Alk Phos /
   T Bili:91/0.2, Amylase / Lipase:29/18, Lactic Acid:2.4 mmol/L,
   Albumin:2.0 g/dL, LDH:1748 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna [**Name Initial (PRE) **] continuing difficulties c
   oxygenation
   # Hypoxic Respiratory Failure: Now able to keep tidal volumes lower
   with increased sedation with fent, midaz, propofol.  Esophageal balloon
   today.  F/U final CT read - to my eye, parenchyma with slight increase
   in ground glass and basilar changes, no filling defect.  LENIS neg.
   Cont vanc/cefepime/micafungin
   # PCP: [**Name10 (NameIs) **] on pentamidine for PCP
   # ILD, Dermatomyositis: 80mg q8 hours of SoluMEdrol
    # Hyponatremia
 sodium 135 today, improved. Likely SIADH had been the
   cause for low sodium, but improving now.
   # Anemia: 1 unit pRBCs
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-26**] 04:49 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Will meet with husband today
   [**Name2 (NI) 129**] status: Full code
   Disposition :
   Total time spent: 36 minutes
   Patient is critically ill

2183-08-27 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2183-8-26**] 10:17 AM
   -transfused one unit PRBC, appropriate increase in Hct; Stable at 9pm
   repeat Hct check (23.6)
   -vanco level therapeutic at 9pm. (changed from 1250mg Q8 to 1000mg Q8)
   -had esophageal balloon placed: 14 of PEEP is the most she should
   recieve at this time.
   -Social work consulted
   -Spoke with family
   -Rheum said no clear indications for steroids from a rheum standpoint
   as her skin lesions on prior admission don't necessarily warrant PO
   steroids in the absence of objective myositis. Deferred dosing of
   steroids to pulm team at this time for severe PCP. [**Name10 (NameIs) 8166**] no
   cytoxan at this time without clear tissue pathology to support severe
   progressive ILD or signs of vasculitis. Also sounds like they want to
   sign off.
   -ID mentioned that other slavage therapy option is clinda/primaquine
   and want G6PD testing preemptively
   -grew few yeast on sputum. requested speciation.
   -sent crypto antigen as per ID
   -ABG at 5pm- 7.42/54/74; no changes in vent
   -goal was for 500-1L negative for day. At 11pm, <200cc negative. Gave
   additional 10mg IV lasix (had already received 10mg earlier in the day)
   [**Name10 (NameIs) 8170**] AE include:
   Cardiovascular: Hypotension
     Dermatologic: Rash
     Endocrine & metabolic: Hyperglycemia or hypoglycemia
     Gastrointestinal: Nausea, vomiting, anorexia, diarrhea
     Hematologic: Leukopenia or neutropenia, thrombocytopenia
     Hepatic: Elevated LFTs
     Renal: Nephrotoxicity
   1% to 10%:
     Cardiovascular: Cardiac arrhythmia
     Gastrointestinal: Pancreatitis, metallic taste
     Hematologic: Anemia
     Local: Local reactions at injection site
   -for tomorrow will check CBC, lfts, CMP, lipase, amylase. ask ID if
   need to check sugars more frequently?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2183-8-25**] 10:30 AM
   Micafungin - [**2183-8-26**] 04:00 PM
   Cefipime - [**2183-8-26**] 09:54 PM
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Vancomycin - [**2183-8-27**] 06:29 AM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-26**] 08:00 PM
   Furosemide (Lasix) - [**2183-8-27**] 01:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-27**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 83 (83 - 96) bpm
   BP: 117/57(75) {99/53(69) - 127/69(88)} mmHg
   RR: 28 (26 - 29) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.2 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,112 mL
                                                                  1,044 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    201 mL
   IVF:
                                                                  2,557 mL
                                                                    802 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,230 mL
                                                                  1,240 mL
   Urine:
                                                                  4,230 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, No Spon Resp
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 90%
   ABG: 7.42/57/80.[**Numeric Identifier 500**]/35/9
   Ve: 11.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Gen: intubated, sedated
   CV: RRR
   Resp: cta anteriorly, decreased bs r base
   Abd: soft, nontender
   Ext: 1+ peripheral edema
   Labs / Radiology
   162 K/uL
   8.7 g/dL
   180 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.5 mEq/L
   18 mg/dL
   88 mEq/L
   131 mEq/L
   24.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2183-8-25**]  11:21 PM
                             [**2183-8-26**]  03:54 AM
                             [**2183-8-26**]  04:09 AM
                             [**2183-8-26**]  09:13 AM
                             [**2183-8-26**]  01:58 PM
                             [**2183-8-26**]  02:19 PM
                             [**2183-8-26**]  05:16 PM
                             [**2183-8-26**]  09:00 PM
                             [**2183-8-27**]  03:07 AM
                             [**2183-8-27**]  03:23 AM
   WBC
   17.4
   19.4
   Hct
   21.2
   24.3
   23.6
   24.7
   Plt
   168
   162
   Cr
   0.3
   0.3
   TCO2
   32
   35
   37
   39
   36
   38
   Glucose
   121
   180
   Other labs: PT / PTT / INR:11.2/66.3/0.9, ALT / AST:378/424<--126/177,
   Alk Phos / T Bili:109/0.3, Amylase / Lipase:36/26, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:1895 IU/L, Ca++:7.3 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: LDH 1895
   retic 3.4
   Imaging: CT chest: Diffuse widespread central and peripheral
   ground-glass opacities,
   which are more extensive in the left lower lobe consistant with PCP
   [**Name Initial (PRE) 5925**];
   The superimposed consolidation in the lower lobes bilaterally have
   improved.
   No pneumothorax, pulmonary embolism or dissection.
   Microbiology: pending
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna [**Name Initial (PRE) **] continuing difficulties c
   oxygenation
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  BAL positive for PCP x2, though on 2nd
   sample the number of organisms seen was noticeably reduced.  Clinical
   condition is not improving, however, and repeat CT scan yesterday
   looked worse than previous.  Stable overnight on vent settings, with
   increased sedation.
   -switched from Bactrim to [**Name Initial (PRE) 8170**] yesterday evening after CT showed
   interval worsening.
   -LFT
s worsening
 will discuss with ID about AE
s of [**Name Initial (PRE) 8170**],
   monitoring.
   -rheum continues to follow
   -on VAP abx and micafungin in addition to [**Name Initial (PRE) 8170**]
 vanco,
   cefepime, cipro. continue to check CBC, lfts, CMP, lipase, amylase for
   [**Name Initial (PRE) 8170**] toxicity
   -continue to follow pending cultures
   -continue on AC. More synchronous with increased sedation and addition
   of propofol.
   -s/p balloon placement
 will keep for now.  Will not raise PEEP above
   14.
   -will speak to husband about possible trach in future (now day 12 of
   intubation)
   -goal TBB even to -500 cc.  Will diurese as needed to keep from being
   significantly positive.
   -ETT noted on CXR to be high
 will advance today 2-3 cm.
   -Question of steroid dose
 discussed at length yesterday.
   2 concerns
 is there active ILD here, and is she safe to get cytoxan
   (is infection resolved?)
      -will continue current regimen for now, hold on cytoxan for now.
      -continue Solumedrol 80 TID
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -rheum says no indication for cytoxan s path data showing worsening ILD
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 131 today. Likely SIADH had been the cause for
   low sodium, fluctuates from 131-135.
   -continue to trend sodium, re-check lytes tomorrow am.
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT: up to 65 today. will recheck this afternoon, may need to
   decrease heparin sc to once daily if continues to be elevated.
   -trend coags
   .
   #anemia:  HCT 21 today, down from yesterday.  Guiac positive stool
   today. No signs of active bleeding.
   -will keep active T&C
   -trend daily hcts
   .
   #Eye care
 started erythromycin ophthalmic ointment, taped eyes to
   keep closed.
   .
   #Constipation: stooling appropriately on current regimen s/p soap suds
   enema.
   .
   ICU CARE
    # FEN
Tube feeds at 30, increased residuals.  Adjust NGT.  Will give
   lasix for goal of -500. Replete electrolytes PRN.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse.
    # Access
 PICC, A-line
    # Code - Full
      # Dispo
 ICU; [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] from SW had already
   seen pt/family on [**8-18**]. will contact  her.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-26**] 06:10 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2183-08-27 09:03:00 Physician Attending Progress Note
Chief Complaint: Repsiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Balloon study - optimized @ 13-14 of PEEP --> kept on 14 of PEEP
   24 Hour Events:
 ESOPHOGEAL BALLOON - At [**2183-8-26**] 10:17 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2183-8-25**] 10:30 AM
   Micafungin - [**2183-8-26**] 04:00 PM
   Cefipime - [**2183-8-26**] 09:54 PM
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Vancomycin - [**2183-8-27**] 06:29 AM
   Infusions:
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-26**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2183-8-26**] 08:00 PM
   Furosemide (Lasix) - [**2183-8-27**] 01:23 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-27**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 89 (83 - 96) bpm
   BP: 117/58(77) {99/53(69) - 127/69(88)} mmHg
   RR: 28 (26 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.2 kg (admission): 59 kg
   Height: 66 Inch
             Total In:
                                                                  4,112 mL
                                                                  1,208 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    256 mL
   IVF:
                                                                  2,557 mL
                                                                    912 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,230 mL
                                                                  1,390 mL
   Urine:
                                                                  4,230 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, No Spon Resp
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 92%
   ABG: 7.42/57/80.[**Numeric Identifier 500**]/35/9
   Ve: 11.6 L/min
   PaO2 / FiO2: 107
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered b/l)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   162 K/uL
   180 mg/dL
   0.3 mg/dL
   35 mEq/L
   3.5 mEq/L
   18 mg/dL
   88 mEq/L
   131 mEq/L
   24.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2183-8-25**]  11:21 PM
                             [**2183-8-26**]  03:54 AM
                             [**2183-8-26**]  04:09 AM
                             [**2183-8-26**]  09:13 AM
                             [**2183-8-26**]  01:58 PM
                             [**2183-8-26**]  02:19 PM
                             [**2183-8-26**]  05:16 PM
                             [**2183-8-26**]  09:00 PM
                             [**2183-8-27**]  03:07 AM
                             [**2183-8-27**]  03:23 AM
   WBC
   17.4
   19.4
   Hct
   21.2
   24.3
   23.6
   24.7
   Plt
   168
   162
   Cr
   0.3
   0.3
   TCO2
   32
   35
   37
   39
   36
   38
   Glucose
   121
   180
   Other labs: PT / PTT / INR:11.2/66.3/0.9, ALT / AST:378/424, Alk Phos /
   T Bili:109/0.3, Amylase / Lipase:36/26, Lactic Acid:1.5 mmol/L,
   Albumin:2.0 g/dL, LDH:1895 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   57y/o F with a PMH of recently diagnosed dermatomyositis and ILD
   admitted with progressive hypoxic respiratory failure found to have PCP
   pna [**Name Initial (PRE) **] continuing difficulties c oxygenation
   # Hypoxic Respiratory Failure: Continue to treat PCP with [**Name Initial (PRE) 8170**].
   Will hold steroids at the current dose of SoluMedrol 80mg q8hrs.  LDH
   remains very high.  Cont micofungin/cefepime/vanc/cipro.  Continue
   current ventilator settings on ARDSnet settings.  Still considering the
   possibility of Cytoxan but it will be diffucult to prove resolution of
   active PCP considering PCP smear can remain positive for weeks even for
   treatment.  Fluid goal even
   # PCP:[**Name Initial (NameIs) 8170**]
   # ILD, Dermatomyositis: 80mg q8 hours of SoluMEdrol
   # Elevated transaminases: Possibly [**1-20**] [**Month/Day (2) 8170**] - will follow
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2183-8-26**] 06:10 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2183-08-28 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-27**] 08:30 PM
   a-line
 URINE CULTURE - At [**2183-8-27**] 08:30 PM
 BLOOD CULTURED - At [**2183-8-27**] 08:45 PM
   picc
   - ID recs, d/c Vanc/Cefepime/Cipro, switch back to Bactrim
   - recommend RUQ u/s to eval for LFT abnormalities (will be done today)
   -pt desaturated at ~5pm to low 80s and high 70s on 100%FiO2, otherwise
   VSS. found to have pneumomediastinum and also ? small ptx on cxr,
   significantly larger than several hours prior, but stable from 5p to
   7p. Thoracic [**Doctor First Name **] came and said if pt decompensated they'd come place
   b/l chest tubes. Husband was called and came in. Son on his way in as
   well. [**Doctor First Name 2966**] talked to fam. Pt made DNR. Cxr's q6h through the night
   to trend. gave lasix 10 and pancultured. Pt's sats improved to low 90s
   c paralysis c cisatracuronium
   -UA [**Last Name (LF) 8193**], [**First Name3 (LF) 116**] f/u culture
   -pt made DNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-26**] 04:00 PM
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Bactrim (SMX/TMP) - [**2183-8-27**] 11:05 PM
   Infusions:
   Cisatracurium - 0.17 mg/Kg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 26 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-27**] 08:37 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-27**] 08:37 AM
   Midazolam (Versed) - [**2183-8-27**] 10:30 PM
   Fentanyl - [**2183-8-27**] 10:30 PM
   Propofol - [**2183-8-27**] 10:30 PM
   Cisatracurium - [**2183-8-27**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-28**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 104 (80 - 128) bpm
   BP: 101/55(70) {94/54(67) - 141/71(88)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  4,399 mL
                                                                    648 mL
   PO:
             TF:
                                                                    510 mL
   IVF:
                                                                  3,759 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                  1,100 mL
   Urine:
                                                                  2,850 mL
                                                                  1,070 mL
   NG:
                                                                    200 mL
                                                                     30 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    549 mL
                                                                   -452 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, Neuromusc Block, No
   Spon Resp
   PIP: 37 cmH2O
   Plateau: 35 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 89%
   ABG: 7.36/61/64/33/6
   Ve: 12.1 L/min
   PaO2 / FiO2: 64
   Physical Examination
   Gen: intubated, sedated, paralyzed
   CV RRR
   Resp: course breath sounds b/l
   Abd: soft, +BS
   Ext: 1+edema b/l, 2+ DP pulse b/l
   Labs / Radiology
   135 K/uL
   8.9 g/dL
   180 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   24.6 %
   24.0 K/uL (rising on constant steroid dose)
        [image002.jpg]
                             [**2183-8-26**]  01:58 PM
                             [**2183-8-26**]  02:19 PM
                             [**2183-8-26**]  05:16 PM
                             [**2183-8-26**]  09:00 PM
                             [**2183-8-27**]  03:07 AM
                             [**2183-8-27**]  03:23 AM
                             [**2183-8-27**]  02:47 PM
                             [**2183-8-27**]  06:41 PM
                             [**2183-8-28**]  04:08 AM
                             [**2183-8-28**]  04:11 AM
   WBC
   19.4
   24.0
   Hct
   24.3
   23.6
   24.7
   24.6
   Plt
   162
   135
   Cr
   0.3
   0.5
   TCO2
   39
   36
   38
   38
   35
   36
   Glucose
   180
   180
   Other labs: PT / PTT / INR:13.5/49.5/1.2, ALT / AST:[**Telephone/Fax (1) 8194**], Alk Phos
   / T Bili:270/0.2, Amylase / Lipase:36/26, Lactic Acid:2.6 mmol/L,
   Albumin:2.0 g/dL, LDH:4116 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.4 mg/dL
   Imaging: 9/9/9
   12p cxr: IMPRESSION: AP chest compared to [**8-27**], 3:33 a.m.:
   Tip of the endotracheal tube has barely moved, just above the upper
   margin of
   the clavicles. I cannot tell whether the chin is in neutral position or
   elevated. If the chin in neutral position, the tube should be advanced
   3 cm.
   If the chin is markedly elevated this position is acceptable.
   Nasogastric tube has a shorter excursion, but still within the confines
   of the
   upper stomach. Moderately severe interstitial pulmonary abnormality
   with
   basal predominance is unchanged. A tiny volume of right pneumothorax is
   stable. A pneumomediastinum has increased since [**8-25**]. No left
   pneumothorax or pleural effusion on either side.
   9/9/9 4p cxr: Pneumomediastinum is increased from [**2183-8-27**]. A likely
   small right apical
   pneumothorax is stable. ET tube is 6 cm from carina. Right PICC line
   tip is
   in upper SVC. NG tube is coiled in stomach, tip pointed towards GE
   junction.
   Diffuse interstitial abnormality is similar. However, a left basilar
   opacity
   is larger, and there is a new right patchy mid lung opacity, could
   reflect
   worsening atelectasis or consolidation
   9/9/9 7p Stable appearance of pneumomediastinum. Small right apical
   pneumothorax
   appears stable. Diffuse interstitial abnormalities with haziness of the
   lungs
   bilaterally appear slightly worse from 5 p.m.. Left retrocardiac and
   basilar
   consolidation/atelectasis is similar.
   Microbiology: crypto ag neg
   stool worms neg
   UA yesterday looked dirty, UCx pending
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP pna [**Name Initial (PRE) **] continuing difficulties c
   oxygenation
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  BAL positive for PCP x2, though on 2nd
   sample the number of organisms seen was noticeably reduced.  Clinical
   condition is not improving, however, and repeat CT scan yesterday
   looked worse than previous.  Stable overnight on vent settings, with
   increased sedation.
   -became accutely  more difficult to oxygenate yesterday around 4pm c
   sats in high 70s and low 80s on FiO2 of 100%. cxr did not show ptx but
   did show pneumomediastinum. Attempted to suction pt s effect, also
   attempted recruitment manuveurs and manually bagging pt. Eventually
   decided to paralyze pt. This led to improvement in O2 sats in the high
   80s to low 90s. In discussion c family pt made DNR
   -continue current vent settings for now
   -reassess in PM, will consider stopping paralytics.
   -thoracic [**Doctor First Name **] was consulted and are aware of pt. If there is concern
   for ptx they should be paged and will come place b/l chest tubes stat
   -thoracic [**Doctor First Name **] also recommends rebronch if clinically stable
   -switched from pentamidine back to bactrim yesterday [**1-20**] rising LFTs
   -rheum continues to follow
   -currently on micafungin in addition to bactrim.
 vanco, cefepime, cipro all discontinued yesterday.
   -continue to follow pending cultures
   -s/p balloon placement
 will keep for now.  Will aim for PEEPs lower
   than 14, ideally as low as possible in setting on pneumomediastinum
   -may speak to husband about possible trach in future (now day 13 of
   intubation), pending appropriate clinical scenario.  Clearly not
   appropriate with current respiratory status.
   -Question of steroid dose : 2 concerns
 is there active ILD here, and
   is she safe to get cytoxan (is infection resolved?)
   -will continue current regimen for now, hold on cytoxan for now.
   -continue Solumedrol 80 TID
   -could consider advancing ETT further as ~6cm above [**Female First Name (un) 8195**]
   .
   #pneumomediastinum: Noted yesterday on 4pm xray yesterday (ordered in
   the setting of pt becoming more difficult to oxygenate, unlikely that
   this is related.) Pneumomediastinum likely 2/2 PEEP. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seemed to have stabilized by 4p xray. (4p, 7p and midnight all look
   the same)
   -will check addl xray at 7am.
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -rheum says no indication for cytoxan s path data showing worsening ILD
   -continue to follow rheum recommendations
   .
   # elevated WBC, stable steroid dose: could be [**1-20**] stress of yesterday
   events, but concerning, especially in light of acute decompensation
   yesterday.
   -will add on differential to today
s cbc
   -would have low threshold for restarting VAP abx
   .
   #transaminitis: attributing to pentamidine, which is now off (but did
   get a dose yesterday). will trend until declines. If continues will
   need to consider other etiologies of elevated LFTs/hepatiis.
   -RUQ to rule out primary liver pathology.
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 131 today. Likely SIADH had been the cause for
   low sodium, fluctuates from 131-135.
   -continue to trend sodium, re-check lytes tomorrow am.
   .
   # Osteoporosis:
   - continue calcium, vitD.  Discontinue bisphosphanate for now
 not
   able to crush for NGT.
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -trend coags
   -hep sc BID
   .
   #anemia:  HCT 21 today, down from yesterday.  Guiac positive stool
   today. No signs of active bleeding.
   -will keep active T&C
   -trend daily hcts
   .
   #Eye care
 started erythromycin ophthalmic ointment, taped eyes to
   keep closed.
   .
   #Constipation: stooling appropriately on current regimen s/p soap suds
   enema.
   .
   ICU CARE
    # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when paralytics are stopped.  Will give lasix for goal of
   -500. Replete electrolytes PRN.
    # Prophy - PPI, SC heparin/pneumoboots, Nystatin rinse.
    # Access
 PICC, A-line
    # Code - DNR
    # Dispo
 ICU; [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  ICU

2183-08-28 09:33:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Paralytics instituted yesterday per event note
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-27**] 08:30 PM
   a-line
 URINE CULTURE - At [**2183-8-27**] 08:30 PM
 BLOOD CULTURED - At [**2183-8-27**] 08:45 PM
   picc
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-26**] 04:00 PM
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Bactrim (SMX/TMP) - [**2183-8-27**] 11:05 PM
   Infusions:
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 26 mg/hour
   Propofol - 130 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2183-8-27**] 10:00 PM
   Midazolam (Versed) - [**2183-8-27**] 10:30 PM
   Fentanyl - [**2183-8-27**] 10:30 PM
   Propofol - [**2183-8-27**] 10:30 PM
   Cisatracurium - [**2183-8-28**] 07:30 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-28**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.2
   HR: 99 (80 - 128) bpm
   BP: 100/57(70) {94/54(67) - 141/71(88)} mmHg
   RR: 28 (12 - 32) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  4,399 mL
                                                                  1,040 mL
   PO:
             TF:
                                                                    510 mL
   IVF:
                                                                  3,759 mL
                                                                  1,040 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                  1,640 mL
   Urine:
                                                                  2,850 mL
                                                                  1,610 mL
   NG:
                                                                    200 mL
                                                                     30 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    549 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Sao2 < 90%, Neuromusc Block, No
   Spon Resp
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 88%
   ABG: 7.36/61/64/33/6
   Ve: 12.1 L/min
   PaO2 / FiO2: 64
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   135 K/uL
   180 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.2 mEq/L
   21 mg/dL
   95 mEq/L
   132 mEq/L
   24.6 %
   24.0 K/uL
        [image002.jpg]
                             [**2183-8-26**]  01:58 PM
                             [**2183-8-26**]  02:19 PM
                             [**2183-8-26**]  05:16 PM
                             [**2183-8-26**]  09:00 PM
                             [**2183-8-27**]  03:07 AM
                             [**2183-8-27**]  03:23 AM
                             [**2183-8-27**]  02:47 PM
                             [**2183-8-27**]  06:41 PM
                             [**2183-8-28**]  04:08 AM
                             [**2183-8-28**]  04:11 AM
   WBC
   19.4
   24.0
   Hct
   24.3
   23.6
   24.7
   24.6
   Plt
   162
   135
   Cr
   0.3
   0.5
   TCO2
   39
   36
   38
   38
   35
   36
   Glucose
   180
   180
   Other labs: PT / PTT / INR:13.5/49.5/1.2, ALT / AST:[**Telephone/Fax (1) 8194**], Alk Phos
   / T Bili:270/0.2, Amylase / Lipase:36/26, Lactic Acid:2.6 mmol/L,
   Albumin:2.0 g/dL, LDH:4116 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   57y/o F with a PMH of recently diagnosed dermatomyositis and ILD
   admitted with progressive hypoxic respiratory failure found to have PCP
   pna [**Name Initial (PRE) **] continuing difficulties c oxygenation
   # Hypoxic Respiratory Failure: There has been a significant decline in
   the last 1 day.  She is now paralyzed and on 100% FIO2.  Will try to
   come off of the paralytic today if there is any improvement in
   oxygenation.  Continue micafungin
   # Pneumomediastinum: There seems to be some improvement in air in
   medistinum.  Will continue to follow serial CXRs.  Will keep PEEP at
   current level.
   # PCP: [**Name10 (NameIs) **] switched back to Bactrim
   # ILD, Dermatomyositis: 80mg q8 hours of SoluMEdrol
   # Elevated transaminases: Possibly [**1-20**] pentamidine - now switched to
   Bactrim
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill
   ------ Protected Section ------
   Time spent: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2183-8-28**] 09:34 ------

2183-08-29 05:58:00 Physician Resident Progress Note
Chief Complaint:
   The patient is a 57y/o F with a PMH of recently diagnosed
   dermatomyositis and ILD admitted with progressive hypoxic respiratory
   failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status worsening, now
   on 100% FiO2.
   24 Hour Events:
   -d/ced following meds while paralyzed: Metoclopramide 10 mg IV Q6H,
   Docusate Sodium (Liquid) 100 mg NG [**Hospital1 **]  View, Senna 1 TAB NG [**Hospital1 **]:PRN
   constipation, Acetaminophen 325-650 mg NG Q6H:PRN pain  View, Lactulose
   30 mL NG TID, Calcium, Vitamin D
   -CT surgery left note - following CXR, no intervention for now.  Will
   continue to follow serial chest x rays today.
   -ID recs:  continue IV Bactrim and micafungin.  F/U RUQ US.
   -Initial read for RUQ US - gallbladder wall edema with some bile
   sludging, no visible stones.  Could very well be consistent with
   overall edema and hypoalbuminemia, but cannot exclude cholecystitis.
   -Paged by heme path fellow at 2 pm - smear from diff. showed 50%
   dysplastic nucleated red cells: evidence for extreme marrow stress.
   -9 am and 3 pm CXR's showed noticeable pneumomediastinum - discussed
   with radiologist who did not think that there was significant worsening
   in the interval between the two.  No clear sign of pneumothorax.
   -ABG at 2:20 pm - 7.41/54/57 on FiO2 100%, PEEP 14, TV 450, RR 28.
   -Overnight we attempted several recruitment maneuvers and switched the
   mode to pressure control in an effort to optimize PEEP and follow tidal
   volumes.  Unable to wean from 100% FiO2.  Initially the FiO2 increased,
   but this decreased the PCO2.
   -Did not diurese yesterday
 fluid even over the course of the day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Micafungin - [**2183-8-28**] 07:00 PM
   Bactrim (SMX/TMP) - [**2183-8-29**] 03:10 AM
   Infusions:
   Cisatracurium - 0.22 mg/Kg/hour
   Midazolam (Versed) - 26 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Propofol - 130 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2183-8-28**] 07:30 AM
   Pantoprazole (Protonix) - [**2183-8-28**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-28**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-29**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.3
   HR: 84 (35 - 101) bpm
   BP: 99/52(67) {90/52(65) - 110/58(75)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  3,975 mL
                                                                  1,223 mL
   PO:
             TF:
   IVF:
                                                                  3,975 mL
                                                                  1,223 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                  1,240 mL
   Urine:
                                                                  3,735 mL
                                                                  1,060 mL
   NG:
                                                                    110 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                    -17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   PIP: 32 cmH2O
   Plateau: 31 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 89%
   ABG: 7.26/73.[**Numeric Identifier **]/91/30/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 91
   Physical Examination
   Intubated, deeply sedated, non-responsive
   Coarse bilateral rales in anterior lung fields
   RRR, no audible murmur.
   Abdomen soft, non-distended, positive bowel sounds.
   1+ peripheral edema.
   Labs / Radiology
   167 K/uL
   6.6 g/dL
   156 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.5 mEq/L
   21 mg/dL
   96 mEq/L
   132 mEq/L
   22.0 %
   17.3 K/uL
        [image002.jpg]
                             [**2183-8-27**]  06:41 PM
                             [**2183-8-28**]  04:08 AM
                             [**2183-8-28**]  04:11 AM
                             [**2183-8-28**]  02:21 PM
                             [**2183-8-28**]  08:55 PM
                             [**2183-8-28**]  10:10 PM
                             [**2183-8-28**]  11:27 PM
                             [**2183-8-29**]  12:22 AM
                             [**2183-8-29**]  03:45 AM
                             [**2183-8-29**]  03:55 AM
   WBC
   15.6
   17.3
   Hct
   24.6
   22.0
   Plt
   135
   167
   Cr
   0.5
   0.5
   TCO2
   35
   36
   35
   35
   34
   32
   34
   34
   Glucose
   180
   156
   Other labs: PT / PTT / INR:11.8/42.3/1.0, ALT / AST:1113/2595, Alk Phos
   / T Bili:255/0.1, Amylase / Lipase:117/130, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:4116 IU/L, Ca++:7.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status
   worsening, now on 100% FiO2.
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Clinical status worsening.
   -Still on 100% FiO2
   -Several attempts at recruitment maneuvers overnight in an attempt to
   improve oxygenation.  Changed to pressure control to evaluate changing
   tidal volumes.  Most recent ABG 7.26/73/91
   -continue current vent settings for now
   -will stop paralytics and restart PO meds
   -thoracic [**Doctor First Name **] was consulted and are aware of pt. If there is concern
   for ptx they should be paged and will come place b/l chest tubes stat.
   The are following
 came by last night to check in.
   -now back on Bactrim after switching to Pentamidine briefly
   -rheum continues to follow
   -will speak with ID re: d/c
ing micafungin since elevated LFT
 vanco, cefepime, cipro all discontinued.
   -continue to follow pending cultures
   -may speak to husband about possible trach in future (now day 13 of
   intubation), pending appropriate clinical scenario.  Clearly not
   appropriate with current respiratory status.
   -continue Solumedrol but decrease from 80 TID to 60 TID
   .
   #pneumomediastinum: Noted on x-ray, followed closely over the course of
   the day yesterday with serial x-rays. (ordered in the setting of pt
   becoming more difficult to oxygenate, unlikely that this is related.)
   Pneumomediastinum likely 2/2 PEEP and PCP [**Name Initial (PRE) 8215**]. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seems to have stabilized
 air distribution seems to shift, but
   radiology yesterday did not see worsening.
   -will re-check CXR in 12 hours.
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed
 negative EUS confirmed.
   -rheum says no indication for cytoxan with path data showing worsening
   ILD
   -continue to follow rheum recommendations
   .
   # elevated WBC, stable steroid dose: could be [**1-20**] stress, but
   concerning given clinical deterioration.
   -differential added on to yesterday
s CBC      showed 50% atypical
   nucleated red cells.
   .
   #transaminitis: Likely due to pentamidine, which has now been
   discontinued for 2 days.
   -RUQ yesterday showed gallbladder edema
 could very well be from
   hypoalbuminemia and generalized edema, but radiology says cannot rule
   out cholecystitis.
   -HIDA would be next step to rule this out, but given current clinical
   setting, not indicated.  Will specifically ask ID to comment.
   -Will continue to trend LFT
   -will consult hepatology
   -will speak with ID re: d/c
ing micafungin
   -will send hepatitis serologies (?reactivation in setting of steroids)
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 132 today, stable between 131-135.
   -continue to trend sodium, follow lytes.
   .
   # Osteoporosis:
   -stopped all oral meds at this point while paralyzed.
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -trend coags
   -hep sc BID
   .
   #anemia:  HCT 22 today, though sample reported hemolyzed.  Guiac
   positive stool, but no other signs of active bleeding.
   -will keep active T&C
   -trend daily hcts; will recheck today; transfusion threshold<21
   .
   #Eye care
erythromycin ophthalmic ointment
   .
   #Constipation: stooling appropriately on current regimen s/p soap suds
   enema.
   # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when paralytics are stopped.  Will give lasix for goal of
   -500. Replete electrolytes PRN.
   #Social Support - [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT:   SC heparin, boots
   Stress ulcer:   PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:  family very involved, were here all day
   yesterday.  Well updated.
   Code status: DNR (do not resuscitate)
   Disposition:  ICU

2183-08-29 10:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, PCP infection
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   O2 sats in low 90s this AM
   24 Hour Events:
   Has some transient improvement in oxygenation with recruitment maneuver
   with CPAP 24 x 3 overnight.  Briefly was able to get FIO2 back to 0.9
   but now back to FIO2 1.0.
   RUQ u/s with distended gall bladder. No sludge, no stones.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-8-27**] 12:02 AM
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Micafungin - [**2183-8-28**] 07:00 PM
   Bactrim (SMX/TMP) - [**2183-8-29**] 03:10 AM
   Infusions:
   Midazolam (Versed) - 26 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-29**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2183-8-29**] 08:33 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-29**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.4
   HR: 79 (35 - 99) bpm
   BP: 99/53(67) {90/52(65) - 110/58(75)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  3,975 mL
                                                                  1,737 mL
   PO:
             TF:
   IVF:
                                                                  3,975 mL
                                                                  1,737 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                  1,560 mL
   Urine:
                                                                  3,735 mL
                                                                  1,380 mL
   NG:
                                                                    110 mL
                                                                    180 mL
   Stool:
   Drains:
   Balance:
                                                                    130 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 32
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 20 cmH2O/mL
   SpO2: 89%
   ABG: 7.31/65/68/30/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 68
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.6 g/dL
   167 K/uL
   156 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.5 mEq/L
   21 mg/dL
   96 mEq/L
   132 mEq/L
   22.0 %
   17.3 K/uL
        [image002.jpg]
                             [**2183-8-28**]  04:08 AM
                             [**2183-8-28**]  04:11 AM
                             [**2183-8-28**]  02:21 PM
                             [**2183-8-28**]  08:55 PM
                             [**2183-8-28**]  10:10 PM
                             [**2183-8-28**]  11:27 PM
                             [**2183-8-29**]  12:22 AM
                             [**2183-8-29**]  03:45 AM
                             [**2183-8-29**]  03:55 AM
                             [**2183-8-29**]  06:38 AM
   WBC
   15.6
   17.3
   Hct
   24.6
   22.0
   Plt
   135
   167
   Cr
   0.5
   0.5
   TCO2
   36
   35
   35
   34
   32
   34
   34
   34
   Glucose
   180
   156
   Other labs: PT / PTT / INR:11.8/42.3/1.0, ALT / AST:1113/2595, Alk Phos
   / T Bili:255/0.1, Amylase / Lipase:117/130, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.5
   mmol/L, Albumin:2.0 g/dL, LDH:7800 IU/L, Ca++:7.1 mg/dL, Mg++:2.3
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57y/o F with a PMH of recently diagnosed dermatomyositis and ILD
   admitted with progressive hypoxic respiratory failure found to have PCP
   pna [**Name Initial (PRE) **] continuing difficulties c oxygenation
   # Hypoxic Respiratory Failure: Has had some response to recruitment
   maneuvers - continue current PCV 14/16.  Will consider further
   recruitment if necessary.  Train of 4 is [**3-22**] --> will try to come off
   cisatracurium.  [**Month/Day (4) **] sedatives
   # Pneumomediastinum: Stable
   # Tranaminitis: Will consult hepatology - does have distended gall
   bladder but still suspect pentamidine effect.  Will discuss with ID D/C
   of micafungin
   # PCP: [**Name10 (NameIs) **] Bactrim
   # ILD, Dermatomyositis: Will decrease steroids to 60mg q8 hours of
   SoluMEdrol
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2183-08-30 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-8-30**] 04:15 AM
   -goal PaO2>55, goal O2 sat>90%. Used derecruitment and  came down.
   increased minute ventilation to 34. Stable gas.
   -discussed case in M&M, no other real changes in management. Have
   decided to slightly wean down on steroids. Changed to 60mg x 2 doses
   today, 40mg tonight for 3rd dose; switching to 40mg TID
   -For increased LFT's, consulted hepatology-think its ischemic in origin
   and just want to trend LFTs for now. Likely [**1-20**] pentamidine. Other
   possibility is micofungin-- ID said OK to d/c. Might consider changing
   bactrim to clinda/primaquine if still suspect medication effect on
   LFT's.
   Sent hepatitis serologies (?in the setting of steroids could have some
   reactivation of hepatitis B or C?)
   -ID does not feel strongly about a HIDA.
   -Had [**3-22**] twitches even with cisatracurium. Paralytic was d/c'ed (not
   breathing against vent at all). Haven't yet restarted reglan, colace,
   senna, tylenol, lactulose, calcium, or tube feeds
   -Hct 22-->16. No evidence of bleeding anywhere. hemolysis
   labs-->normal.
   Transfused 2 units PRBC, crit increased to 27... ??lab error first time
   -gave lasix because 2.5 liters positive.
   -hypotensive, gave three 500cc boluses; started on levo
   -restarted paralytics and propofol
   -switched to AC with good o2 sats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Micafungin - [**2183-8-28**] 07:00 PM
   Bactrim (SMX/TMP) - [**2183-8-30**] 04:19 AM
   Infusions:
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 26 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-29**] 08:33 AM
   Pantoprazole (Protonix) - [**2183-8-29**] 09:30 PM
   Furosemide (Lasix) - [**2183-8-30**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-30**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 94 (79 - 107) bpm
   BP: 102/57(71) {79/51(63) - 116/67(82)} mmHg
   RR: 34 (32 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  4,723 mL
                                                                  1,942 mL
   PO:
             TF:
   IVF:
                                                                  4,068 mL
                                                                  1,942 mL
   Blood products:
                                                                    655 mL
   Total out:
                                                                  2,280 mL
                                                                    290 mL
   Urine:
                                                                  2,025 mL
                                                                    240 mL
   NG:
                                                                    255 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,443 mL
                                                                  1,652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 35 cmH2O
   Plateau: 31 cmH2O
   SpO2: 93%
   ABG: 7.31/52/72/24/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   177 K/uL
   4.5 g/dL
   112 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.6 mEq/L
   26 mg/dL
   103 mEq/L
   132 mEq/L
   24.0 %
   19.7 K/uL
        [image002.jpg]
                             [**2183-8-29**]  03:21 PM
                             [**2183-8-29**]  04:19 PM
                             [**2183-8-29**]  05:05 PM
                             [**2183-8-29**]  09:48 PM
                             [**2183-8-29**]  10:07 PM
                             [**2183-8-29**]  11:56 PM
                             [**2183-8-30**]  12:42 AM
                             [**2183-8-30**]  01:34 AM
                             [**2183-8-30**]  03:10 AM
                             [**2183-8-30**]  03:44 AM
   WBC
   16.7
   18.4
   19.7
   Hct
   16.0
   16.4
   27.0
   24.0
   Plt
   174
   160
   177
   Cr
   0.5
   0.7
   TCO2
   32
   30
   29
   28
   28
   27
   Glucose
   132
   112
   Other labs: PT / PTT / INR:10.9/35.8/0.9, ALT / AST:[**0-0-**]
   (<--1100/2600), Alk Phos / T Bili:300/0.1, Amylase / Lipase:126/166,
   Differential-Neuts:64.0 %, Band:13.0 %, Lymph:2.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.0 g/dL, LDH:6180 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Imaging: The ET tube tip is 4 cm above the carina. The right PICC line
   tip is at the
   level of superior SVC. The NG tube tip is in the stomach. The
   cardiomediastinal silhouette is stable. The degree of pneumomediastinum
   is
   difficult to appreciate on the current study, which appears to be
   unchanged
   since the prior study, relatively mild.
   The bilateral extensive parenchymal opacities that most likely
   represent a
   known PCP pneumonia are unchanged. Pneumopericardium is grossly
   unchanged
   since the prior study.
   Microbiology: [**2183-8-27**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2183-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2183-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2183-8-27**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2183-8-26**]  WORM O&P MACROSCOPIC EXAM - WORM-FINAL INPATIENT
   [**2183-8-26**]  SEROLOGY/BLOOD CRYPTOCOCCAL ANTIGEN-FINAL INPATIENT
   [**2183-8-26**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2183-8-23**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL {[**Female First Name (un) **] ALBICANS}; OVA + PARASITES-FINAL;
   Immunoflourescent test for Pneumocystis jirovecii (carinii)-FINAL
   {POSITIVE FOR PNEUMOCYSTIS JIROVECII (CARINII)}; FUNGAL
   CULTURE-PRELIMINARY {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST
   CULTURE-PRELIMINARY INPATIENT
   [**2183-8-23**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST};
   FUNGAL CULTURE-PRELIMINARY {YEAST} INPATIENT
   [**2183-8-23**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2183-8-23**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY INPATIENT
   [**2183-8-23**]  URINE ANAEROBIC CULTURE-FINAL INPATIENT
   [**2183-8-22**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2183-8-22**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2183-8-21**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2183-8-21**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2183-8-21**]  Immunology (CMV) CMV Viral Load-FINAL INPATIENT
   [**2183-8-21**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2183-8-21**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2183-8-21**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2183-8-19**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2183-8-18**]  URINE URINE CULTURE-FINAL INPATIENT
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status
   worsening, now on 100% FiO2.
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Clinical status worsening.
   -Still on 100% FiO2 and now on AC.
   -Several attempts at recruitment maneuvers overnight in an attempt to
   improve oxygenation x 3. only somewhat successful.
   -continue current vent settings for now; recheck ABG's q4h as necessary
   for SpO2<90
   -paralytics restarted this AM b/c some breathing against vent.  Also
   attempting to come down on her propofol, since extremely elevated TG's.
   -thoracic [**Doctor First Name **] was consulted and are aware of pt. If there is concern
   for ptx they should be paged and will come place b/l chest tubes stat.
   The are following
 came by last night to check in.
   -now back on Bactrim after switching to Pentamidine briefly
   -rheum continues to follow
   -ID said OK to dc micafungin in light of LFT's (done yesterday); might
   consider switching bactrim to clinda/primaquine if LFT's remain
   elevated
 vanco, cefepime, cipro all discontinued yesterday. Will restart in
   light of hypotension and concern for septic shock
   -continue to follow pending cultures, will reculture
   -may speak to husband about possible trach in future (now day 15 of
   intubation), pending appropriate clinical scenario.  Clearly not
   appropriate with current respiratory status.
   -continue Solumedrol but decrease from 60TID to 40TID
   .
   #Pneumomediastinum: Noted on x-ray, followed closely over the course of
   the day yesterday with serial x-rays. (ordered in the setting of pt
   becoming more difficult to oxygenate, unlikely that this is related.)
   Pneumomediastinum likely 2/2 PEEP and PCP [**Name Initial (PRE) 8215**]. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seems to have stabilized - no changes on serial Xrays.
   -will re-check CXR [**Hospital1 **].
   .
   #Anemia: Patient with acute drop in HCT from 22 to 16. repeated x 2.
   Also reflected in Hgb. s/p 2 units and Hct increased to 27, Hct 24 this
   AM.
   Guiac positive stool for hospitalization (likely [**1-20**] ulcer). No bloody
   ET secretions. No oozing anywhere. other coags/plts stable. Hemolysis
   labs negative. Note 50% atypical reds from marrow stress. Had been
   hemodynamically stable until not oxygenating well.  Concern for some
   occult bleed we are not seeing, especially in light of abdominal
   distension.
   -will continue to trend q8h; Hct <25, will transfuse
   - No bleeding in NG lavage, will relavage.
   -continue [**Hospital1 **] PPI
   .
   # Lactic acidosis: new this am
   -will reculture and start empiric abx ? of gallbladder as source?
   -lactic acidosis could also be [**1-20**] hypovolemia/bleeding as well
   .
   #Hypotension: required boluses overnight despite little diuresis with
   lasix. Off levophed.
   -maintain MAP>65 with IVF boluses and levophed as needed
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed.
 negative EUS confirmed.
   -Amylase/Lipase slightly elevated, likely [**1-20**] propofol
   -rheum says no indication for cytoxan with path data showing worsening
   ILD
   -continue to follow rheum recommendation
   .
   #transaminitis: Likely due to pentamidine, which has now been
   discontinued for 2 days.
   -RUQ yesterday showed gallbladder edema
 could very well be from
   hypoalbuminemia and generalized edema, but radiology says cannot rule
   out cholecystitis.
   -HIDA would be next step to rule this out, but given current clinical
   setting, not indicated.  ID did not feel strongly about doing this.
   -Will continue to trend LFT
s, now decreasing, but could be because of
   resolving ischemia, as proposed by hepatology
   -f/u hepatitis serologies (?reactivation in setting of steroids)
   -d/c'ed micafungin b/c can cause increase in LFT's in <5%
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE. Maintaining
   good O2 sats on AC. Not large concern for new PE right now.
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 132 today, stable between 131-135.
   -continue to trend sodium, follow lytes.
   .
   # Osteoporosis:
   -stopped all oral meds at this point, until sure will not be
   reparalyzed
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -trend coags
   -hep sc BID
   .
   #Eye care
erythromycin ophthalmic ointment
   .
   #Constipation: stooling appropriately on current regimen s/p soap suds
   enema.
   # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when sure will not add back paralytics.  Gave lasix yesterday
   but didn't really put out. IVF boluses as needed for hypotension.
   Replete electrolytes PRN.
   #Social Support - [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT:  subQ heparin, pneumoboots
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:  HOB elevation, mouthcare
   Comments:
   Communication:  Comments:  Husband- communication daily/multiple times
   per day
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2183-08-30 08:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Pneumocystis pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct drop from 22 --> 16 yesterday.  No bleeding from NG tube or rectum
   --> no other physical signs of bleeding.  Transfused 2 units
   BP drop and tachycardia to 130s-150s this AM in setting of Lasix.
   Levophed started
   24 Hour Events:
 EKG - At [**2183-8-30**] 04:15 AM
   Propofol and cisatracurium restarted for ventilator dysynchrony
   3 recruitment maneuvers overnight
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2183-8-27**] 11:00 AM
   Vancomycin - [**2183-8-27**] 02:00 PM
   Micafungin - [**2183-8-28**] 07:00 PM
   Bactrim (SMX/TMP) - [**2183-8-30**] 04:19 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 450 mcg/hour
   Midazolam (Versed) - 26 mg/hour
   Cisatracurium - 0.22 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-8-29**] 08:33 AM
   Pantoprazole (Protonix) - [**2183-8-29**] 09:30 PM
   Furosemide (Lasix) - [**2183-8-30**] 12:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-30**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 148 (80 - 148) bpm
   BP: 82/53(63) {79/51(63) - 116/67(82)} mmHg
   RR: 34 (32 - 34) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                  4,723 mL
                                                                  2,112 mL
   PO:
             TF:
   IVF:
                                                                  4,068 mL
                                                                  2,112 mL
   Blood products:
                                                                    655 mL
   Total out:
                                                                  2,280 mL
                                                                    325 mL
   Urine:
                                                                  2,025 mL
                                                                    275 mL
   NG:
                                                                    255 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,443 mL
                                                                  1,787 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (300 - 350) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 31.8 cmH2O/mL
   SpO2: 90%
   ABG: 7.31/52/72/24/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal),
   tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   4.5 g/dL
   177 K/uL
   112 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.6 mEq/L
   26 mg/dL
   103 mEq/L
   132 mEq/L
   24.0 %
   19.7 K/uL
        [image002.jpg]
                             [**2183-8-29**]  03:21 PM
                             [**2183-8-29**]  04:19 PM
                             [**2183-8-29**]  05:05 PM
                             [**2183-8-29**]  09:48 PM
                             [**2183-8-29**]  10:07 PM
                             [**2183-8-29**]  11:56 PM
                             [**2183-8-30**]  12:42 AM
                             [**2183-8-30**]  01:34 AM
                             [**2183-8-30**]  03:10 AM
                             [**2183-8-30**]  03:44 AM
   WBC
   16.7
   18.4
   19.7
   Hct
   16.0
   16.4
   27.0
   24.0
   Plt
   174
   160
   177
   Cr
   0.5
   0.7
   TCO2
   32
   30
   29
   28
   28
   27
   Glucose
   132
   112
   Other labs: PT / PTT / INR:10.9/35.8/0.9, ALT / AST:[**0-0-**], Alk Phos
   / T Bili:300/0.1, Amylase / Lipase:126/166, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:2.4
   mmol/L, Albumin:2.0 g/dL, LDH:6180 IU/L, Ca++:7.0 mg/dL, Mg++:2.5
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57y/o F with a PMH of recently diagnosed dermatomyositis and ILD
   admitted with progressive hypoxic respiratory failure found to have PCP
   pna [**Name Initial (PRE) **] continuing difficulties c oxygenation
   # Hypoxic Respiratory Failure: Now back on assist control but overall
   requiring maximal levels of support.  FIO2 1.0, PEEP 16.  Recruitment
   prn.  Sats currently in mid-90s.  Will try to come back off of the
   propofol and paralytics if possible
   # Tachycardia/Hypotension: BP now with MAP above 70 and coming off
   levophed but remaining very tachycardic.  Has had a lactate return at
   4.2 --> concerned about hypoperfusion.  Concerned about ongoing blood
   loss
 will transfuse additional unit.  Will restart broad sprectrum
   antibiotics.
   # Pneumomediastinum: Stable --> recheck [**Hospital1 **] CXR
   # Tranaminitis: Possibly shock liver plus pentamidine.  Appreciate
   hepatology input.  Transaminases trending down.
   # PCP: [**Name10 (NameIs) **] Bactrim
   # ILD, Dermatomyositis: SoluMedrol 40mg TID
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Meeting with Mrs.[**Known lastname 8226**] husband, [**Name (NI) 1068**],
   multiple times per day
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Mrs. [**Known lastname 7947**] remained tachycardic to the 150s throughout the day.  She
   has continued to require levophed
 vasopressin was also added today
   with favorable effect.  Over the course of the day, she has had
   worsening metabolic acidosis with rising lactate.  These have leveled
   off over the last several hours.  Scenario worrisome for sepsis vs gut
   ischemia vs hemodynamic effects of pneumomediastinum vs occult bleed.
   Broad spectrum abx reinstituted, has been transfused and had ongoing
   fluid resuscitation.  Oxygenation somewhat stable with sats in low to
   mid 90s, but remains paralyzed and on 1.0 FIO2 with PEEP of 16.  Needs
   PEEP to maintain oxygenation but has worsening subcutaneous emphysema
   in neck.
   Have been in ongoing contact with Mr. [**Known lastname 7947**] over the day to update him
   on his wife
s extremely tenuous status.
   Pt is critically ill.  Time spent 100 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2183-8-30**] 20:51 ------

2183-08-31 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2183-8-30**] 07:30 PM
 BLOOD CULTURED - At [**2183-8-31**] 12:45 AM
 URINE CULTURE - At [**2183-8-31**] 12:55 AM
 FEVER - 101.3
F - [**2183-8-31**] 04:00 AM
   -pt developed lactic acidosis and tachycardia c HR in the 150s. Pt felt
   to most likely becoming septic. Bolused c IVF and vasopressin added to
   neo for falling MAPs. Also restarted broad spectrum abx. Given 4L IVF
   (1NS and 2LR and 1bicarb)
   -liver recs: check [**Doctor First Name **] to r/o autoimmune hep, also check doppler US
   -ID: no new recs
   -thoracic [**Doctor First Name **]: would like us to call if she develops hemodynamycally
   sig ptx
   -continued paralysis
   -spiked to 101, recultured
   -NG lavage deferred
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-28**] 07:00 PM
   Cefipime - [**2183-8-30**] 08:14 PM
   Ciprofloxacin - [**2183-8-30**] 10:15 PM
   Vancomycin - [**2183-8-31**] 12:30 AM
   Bactrim (SMX/TMP) - [**2183-8-31**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 26 mg/hour
   Cisatracurium - 0.22 mg/Kg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-31**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.5
C (101.3
   HR: 144 (102 - 158) bpm
   BP: 104/60(75) {76/52(61) - 128/70(89)} mmHg
   RR: 34 (33 - 37) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                 11,011 mL
                                                                  2,176 mL
   PO:
             TF:
   IVF:
                                                                 10,636 mL
                                                                  2,176 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    948 mL
                                                                    150 mL
   Urine:
                                                                    623 mL
                                                                    150 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                 10,063 mL
                                                                  2,026 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (300 - 350) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 36 cmH2O
   Plateau: 31 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.17/52/86.[**Numeric Identifier **]/17/-9
   Ve: 10.2 L/min
   PaO2 / FiO2: 87
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   4.5 g/dL
   139 mg/dL
   1.0 mg/dL
   17 mEq/L
   5.1 mEq/L
   35 mg/dL
   108 mEq/L
   131 mEq/L
   26.0 %
   19.7 K/uL
        [image002.jpg]
                             [**2183-8-30**]  03:44 AM
                             [**2183-8-30**]  08:43 AM
                             [**2183-8-30**]  01:35 PM
                             [**2183-8-30**]  03:43 PM
                             [**2183-8-30**]  04:03 PM
                             [**2183-8-30**]  06:09 PM
                             [**2183-8-30**]  09:19 PM
                             [**2183-8-30**]  09:27 PM
                             [**2183-8-31**]  12:55 AM
                             [**2183-8-31**]  05:20 AM
   Hct
   24
   33
   25.0
   26.0
   Cr
   1.0
   TCO2
   27
   22
   18
   18
   18
   18
   20
   20
   Glucose
   139
   Other labs: PT / PTT / INR:10.9/35.8/0.9, ALT / AST:[**0-0-**], Alk Phos
   / T Bili:300/0.1, Amylase / Lipase:126/166, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:5.2
   mmol/L, Albumin:2.0 g/dL, LDH:6180 IU/L, Ca++:7.0 mg/dL, Mg++:2.5
   mg/dL, PO4:4.7 mg/dL
   Imaging: cxr: appears more volume overloaded since yesterday
   Microbiology: cultured last night when febrile, no new culture data
   this am
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status
   worsening, now on 100% FiO2.
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Clinical status worsening.
   -Still on 100% FiO2 and now on AC.
   -paralytics restarted yesterday b/c some breathing against vent.
   -thoracic [**Doctor First Name **] was consulted and are aware of pt. If there is concern
   for ptx they should be paged and will come place b/l chest tubes stat.
   -now back on Bactrim after switching to Pentamidine briefly; might
   consider switching bactrim to clinda/primaquine if LFT's remain
   elevated
   -ID said OK to dc micafungin in light of LFT's (done yesterday)
 vanco, cefepime, cipro all discontinued 2 days ago and then restarted
   yesterday in light of hypotension and concern for septic shock
   -continue to follow pending cultures, will reculture
   -may speak to husband about possible trach in future (now day 16 of
   intubation), pending appropriate clinical scenario.  Clearly not
   appropriate with current respiratory status.
   -continue slow salumedrol taper, currently at 40TID
   .
   #Hypotension/tachycardia: gave 10L of IVF yesterday
   -maintain MAP>65 with IVF boluses and levophed and vasopressin. could
   consider switching to neo for tachycardia.
   -continue to f/u cultures and crits
   .
   #Anemia: Patient with acute drop in HCT from 22 to 16. repeated x 2.
   Also reflected in Hgb. s/p 2 units and Hct increased to 27, Hct 24 this
   AM
   Guiac positive stool for hospitalization (likely [**1-20**] ulcer). No bloody
   ET secretions. No oozing anywhere. other coags/plts stable. Hemolysis
   labs negative.  50% atypical reds from marrow stress. Had been
   hemodynamically stable until not oxygenating well.  Concern for some
   occult bleed we are not seeing, especially in light of abdominal
   distension.
   -will continue to trend q8h; Hct <25, will transfuse
   - No bleeding in NG lavage, will relavage.
   -continue [**Hospital1 **] PPI
   .
   # Lactic acidosis: new this am
   -likely [**1-20**] to above issues: sepsis/hypovolemia
   .
   # Oliguric acute renal failure: pt c cr bump from 0.4 to 1.3 in past
   2-3 days. Likely ATN [**1-20**] poor perfusion.
   -try to keep maps >65 c pressors and IV boluses
   .
   #Pneumomediastinum: Noted on x-ray, followed closely over the course of
   the day yesterday with serial x-rays. (ordered in the setting of pt
   becoming more difficult to oxygenate, unlikely that this is related.)
   Pneumomediastinum likely 2/2 PEEP and PCP [**Name Initial (PRE) 8215**]. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seems to have stabilized - no changes on serial Xrays, perhaps
   improved this am.
   -will re-check CXR [**Hospital1 **].
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed.
 negative EUS confirmed.
   -Amylase/Lipase slightly elevated, likely [**1-20**] propofol
   -rheum says no indication for cytoxan with path data showing worsening
   ILD
   .
   #transaminitis: Likely due to pentamidine, which has now been
   discontinued for 2 days.
   -RUQ yesterday showed gallbladder edema
 could very well be from
   hypoalbuminemia and generalized edema, but radiology says cannot rule
   out cholecystitis.
   -HIDA would be next step to rule this out, but given current clinical
   setting, not indicated.  ID did not feel strongly about doing this.
   -Will continue to trend LFT
s, now decreasing, but could be because of
   resolving ischemia, as proposed by hepatology
   -f/u hepatitis serologies (?reactivation in setting of steroids)
   -d/c'ed micafungin b/c can cause increase in LFT's in <5%
   .
   #hypertriglyceridemia: [**1-20**] propofol, which has been discontinued.
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE. Maintaining
   good O2 sats on AC. Not large concern for new PE right now.
   -likely edema is [**1-20**] low albumin
    .
     #Hyponatremia
 sodium 132 today, stable between 131-135.
   -continue to trend sodium, follow lytes.
   .
   # Osteoporosis:
   -stopped all oral meds at this point, until sure will not be
   reparalyzed
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -trend coags
   -hep sc BID
   .
   #Eye care
erythromycin ophthalmic ointment
   .
   #Constipation: stooling appropriately on current regimen s/p soap suds
   enema.
    # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when sure will not add back paralytics.  Gave lasix yesterday
   but didn't really put out. IVF boluses as needed for hypotension.
   Replete electrolytes PRN.
    #Social Support - [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2183-08-31 09:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, PCP
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to have ongoing lactic acidosis but lactate stable since last
   evening
   Got 1L of HCO3 (3 amps)
   10L positive yesterday
   24 Hour Events:
 SPUTUM CULTURE - At [**2183-8-30**] 07:30 PM
 BLOOD CULTURED - At [**2183-8-31**] 12:45 AM
 URINE CULTURE - At [**2183-8-31**] 12:55 AM
 FEVER - 101.3
F - [**2183-8-31**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-28**] 07:00 PM
   Cefipime - [**2183-8-30**] 08:14 PM
   Ciprofloxacin - [**2183-8-30**] 10:15 PM
   Vancomycin - [**2183-8-31**] 12:30 AM
   Bactrim (SMX/TMP) - [**2183-8-31**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 26 mg/hour
   Cisatracurium - 0.22 mg/Kg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema, Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2183-8-31**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 144 (140 - 158) bpm
   BP: 102/58(73) {76/52(61) - 128/69(89)} mmHg
   RR: 34 (33 - 34) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                 11,011 mL
                                                                  2,875 mL
   PO:
             TF:
   IVF:
                                                                 10,636 mL
                                                                  2,875 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    948 mL
                                                                    150 mL
   Urine:
                                                                    623 mL
                                                                    150 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                 10,063 mL
                                                                  2,725 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 90%
   ABG: 7.17/52/86.[**Numeric Identifier **]/18/-9
   Ve: 10.5 L/min
   PaO2 / FiO2: 87
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered bilaterally)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   4.5 g/dL
   275 K/uL
   218 mg/dL
   1.3 mg/dL
   18 mEq/L
   5.0 mEq/L
   42 mg/dL
   104 mEq/L
   129 mEq/L
   21.0 %
   23.0 K/uL
        [image002.jpg]
                             [**2183-8-30**]  08:43 AM
                             [**2183-8-30**]  01:35 PM
                             [**2183-8-30**]  03:43 PM
                             [**2183-8-30**]  04:03 PM
                             [**2183-8-30**]  06:09 PM
                             [**2183-8-30**]  09:19 PM
                             [**2183-8-30**]  09:27 PM
                             [**2183-8-31**]  12:55 AM
                             [**2183-8-31**]  05:01 AM
                             [**2183-8-31**]  05:20 AM
   WBC
   23.0
   Hct
   24
   33
   25.0
   26.0
   21.0
   Plt
   275
   Cr
   1.0
   1.3
   TCO2
   22
   18
   18
   18
   18
   20
   20
   Glucose
   139
   218
   Other labs: PT / PTT / INR:14.7/41.5/1.3, ALT / AST:[**Telephone/Fax (1) 8242**], Alk Phos
   / T Bili:491/0.2, Amylase / Lipase:190/113, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:5.2
   mmol/L, Albumin:2.0 g/dL, LDH:7410 IU/L, Ca++:6.3 mg/dL, Mg++:2.2
   mg/dL, PO4:5.8 mg/dL
   Imaging: CXR: decreased mediastinal air. New bilateral effusions.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   57y/o F with a PMH of recently diagnosed dermatomyositis and ILD
   admitted with progressive hypoxic respiratory failure found to have PCP
   pna [**Name Initial (PRE) **] continuing difficulties c oxygenation, worsening metabolic
   acidosis, worsening acute renal failure
   # Hypoxic Respiratory Failure: Continue on A/C 350 x 34, PEEP 16, FIO2
   1.0.  Continue paralytics.  Now starting to develop effusions which
   further limits our ability to oxygenate.
   # Tachycardia/Hypotension: Continues on 2 presors.  Given fever, may
   have occult infection - gall bladder vs gut ischemia/bacterial
   translocation.  Continue cefepime/cipro/vanco.  Continue fluid
   resusitation with bicarbonate containing fluid.
   # Anemia/Blood loss anemia: Has coffee grounds from OG tube -->
   transfuse 1 unit
   # Acute renal failure/Metabolic Acidosis: Worsening kidney function due
   to hypoperfusion --> may need CVVH if she can get to a place where she
   can hemodynamically tolerate.  Follow lactate, pH --> bicarb as above
   # Pneumomediastinum: Stable --> follow CXRs
   # Tranaminitis: Possibly shock liver plus pentamidine.  Transaminases
   leveling off
   # PCP: [**Name10 (NameIs) **] Bactrim
   # ILD, Dermatomyositis: Decrease SoluMedrol 30mg TID
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Mrs. [**Known lastname 7947**] had an acute desaturation in the late morning with O2 sats
   down to 82-83%, still on 1.0 FIO2.  Attepmt to recruit with CPAP 20 for
   30 seconds without improvement.  Mechanics showing worsening lung
   compliance but also modest increase resistance
 volume delivered lower
   for same plateus pressure (29).  Switched transiently to PCV, then back
   to volume but with decrease in RR to 28 from 34, as she did seem to not
   completely terminate exhalation on flow tracing prior to initiation of
   next breath.  No evidence of stacking with lower rate and some
   improvement in delivered volumes.  PEEP also increase to 18.  Suspect
   some component of breath stacking/overdistention as contributing to the
   episode.  Updated Mrs. [**Known lastname 7947**]
s husband.
   [**Name (NI) **] is critically ill.  Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2183-8-31**] 13:52 ------

2183-08-31 11:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2183-8-30**] 07:30 PM
 BLOOD CULTURED - At [**2183-8-31**] 12:45 AM
 URINE CULTURE - At [**2183-8-31**] 12:55 AM
 FEVER - 101.3
F - [**2183-8-31**] 04:00 AM
   -pt developed lactic acidosis and tachycardia c HR in the 150s. Pt felt
   to most likely becoming septic. Bolused c IVF and vasopressin added to
   neo for falling MAPs. Also restarted broad spectrum abx. Given 4L IVF
   (1NS and 2LR and 1bicarb)
   -liver recs: check [**Doctor First Name **] to r/o autoimmune hep, also check doppler US
   -ID: no new recs
   -thoracic [**Doctor First Name **]: would like us to call if she develops hemodynamycally
   sig ptx
   -continued paralysis
   -spiked to 101, recultured
   -NG lavage deferred
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2183-8-28**] 07:00 PM
   Bactrim (SMX/TMP) - [**2183-8-31**] 04:00 AM
   Cefipime - [**2183-8-31**] 08:00 AM
   Vancomycin - [**2183-8-31**] 08:34 AM
   Ciprofloxacin - [**2183-8-31**] 10:00 AM
   Infusions:
   Cisatracurium - 0.22 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 26 mg/hour
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-8-31**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 138 (138 - 158) bpm
   BP: 113/61(77) {79/53(59) - 128/69(89)} mmHg
   RR: 34 (33 - 34) insp/min
   SpO2: 86%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 64.9 kg
   Height: 66 Inch
             Total In:
                                                                 11,011 mL
                                                                  4,041 mL
   PO:
             TF:
   IVF:
                                                                 10,636 mL
                                                                  4,041 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    948 mL
                                                                    230 mL
   Urine:
                                                                    623 mL
                                                                    230 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                 10,063 mL
                                                                  3,811 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, Neuromusc Block
   PIP: 35 cmH2O
   Plateau: 29 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 86%
   ABG: 7.21/49/68/18/-8
   Ve: 9.3 L/min
   PaO2 / FiO2: 68
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   4.5 g/dL
   218 mg/dL
   1.3 mg/dL
   18 mEq/L
   5.0 mEq/L
   42 mg/dL
   104 mEq/L
   129 mEq/L
   21.0 %
   23.0 K/uL
        [image002.jpg]
                             [**2183-8-30**]  01:35 PM
                             [**2183-8-30**]  03:43 PM
                             [**2183-8-30**]  04:03 PM
                             [**2183-8-30**]  06:09 PM
                             [**2183-8-30**]  09:19 PM
                             [**2183-8-30**]  09:27 PM
                             [**2183-8-31**]  12:55 AM
                             [**2183-8-31**]  05:01 AM
                             [**2183-8-31**]  05:20 AM
                             [**2183-8-31**]  10:00 AM
   WBC
   23.0
   Hct
   33
   25.0
   26.0
   21.0
   Plt
   275
   Cr
   1.0
   1.3
   TCO2
   18
   18
   18
   18
   20
   20
   21
   Glucose
   139
   218
   Other labs: PT / PTT / INR:14.7/41.5/1.3, ALT / AST:[**Telephone/Fax (1) 8242**], Alk Phos
   / T Bili:491/0.2, Amylase / Lipase:190/113, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:4.1
   mmol/L, Albumin:2.0 g/dL, LDH:7410 IU/L, Ca++:6.3 mg/dL, Mg++:2.2
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status
   worsening, now on 100% FiO2.
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Clinical status worsening.
   -Still on 100% FiO2 and now on AC.
   -paralytics restarted this AM b/c some breathing against vent.
   -thoracic [**Doctor First Name **] was consulted and are aware of pt. If there is concern
   for ptx they should be paged and will come place b/l chest tubes stat.
   They are following
 came by last night to check in.
   -now back on Bactrim after switching to Pentamidine briefly
   -rheum continues to follow
   -ID said OK to dc micafungin in light of LFT's (done yesterday); might
   consider switching bactrim to clinda/primaquine if LFT's remain
   elevated
 vanco, cefepime, cipro all discontinued yesterday. Will restart in
   light of hypotension and concern for septic shock
   -continue to follow pending cultures, will reculture
   -may speak to husband about possible trach in future (now day 15 of
   intubation), pending appropriate clinical scenario.  Clearly not
   appropriate with current respiratory status.
   -continue Solumedrol taper, 30 TID today
   .
   #Hypotension/tachycardia: required boluses overnight despite little
   diuresis with lasix. Off levophed.
   -maintain MAP>65 with IVF boluses and levophed and vasopressin. could
   consider switching to neo for tachycardia
   -continue to fu cultures and crits
   -dc albuterol
   .
   #Anemia: Patient with falling crit, concerned for stress ulcer
   bleeding, stool guaiac pos.
   -will give addl unit prbcs
   -will continue to trend q12h; Hct <25, will transfuse
   - No bleeding in NG lavage, will relavage.
   -continue [**Hospital1 **] PPI
   -dc sc heparin
   .
   # Lactic acidosis: new this am
   -will reculture and start empiric abx ? of gallbladder as source?
   -lactic acidosis could also be [**1-20**] hypovolemia/bleeding as well
   .
   #Oliguric [**Last Name (un) 2406**]: pt c cr bump from 0.4 to 1.3 in past 2-3d. Likely ATN
   [**1-20**] poor perfusion
   -try to keep maps >65 c pressors and IV boluses
   -consult renal tomorrow.
   .
   #Pneumomediastinum: Noted on x-ray, followed closely over the course of
   the day yesterday with serial x-rays. (ordered in the setting of pt
   becoming more difficult to oxygenate, unlikely that this is related.)
   Pneumomediastinum likely 2/2 PEEP and PCP [**Name Initial (PRE) 8215**]. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seems to have stabilized - no changes on serial Xrays.
   -will re-check CXR [**Hospital1 **].
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed.
 negative EUS confirmed.
   -Amylase/Lipase slightly elevated, likely [**1-20**] propofol
   -rheum says no indication for cytoxan with path data showing worsening
   ILD
   -continue to follow rheum recommendation
   .
   #transaminitis: Likely due to pentamidine, which has now been
   discontinued for 2 days.
   -RUQ yesterday showed gallbladder edema
 could very well be from
   hypoalbuminemia and generalized edema, but radiology says cannot rule
   out cholecystitis.
   -HIDA would be next step to rule this out, but given current clinical
   setting, not indicated.  ID did not feel strongly about doing this.
   -Will continue to trend LFT
s, now decreasing, but could be because of
   resolving ischemia, as proposed by hepatology
   -f/u hepatitis serologies (?reactivation in setting of steroids)
   -d/c'ed micafungin b/c can cause increase in LFT's in <5%
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE. Maintaining
   good O2 sats on AC. Not large concern for new PE right now.
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 132 today, stable between 131-135.
   -continue to trend sodium, follow lytes.
   .
   # Osteoporosis:
   -stopped all oral meds at this point, until sure will not be
   reparalyzed
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -will dc sc heparin
   .
   #Eye care
erythromycin ophthalmic ointment
   .
    # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when sure will not add back paralytics.  Gave lasix yesterday
   but didn't really put out. IVF boluses as needed for hypotension.
   Replete electrolytes PRN.
    #Social Support - [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2183-09-01 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-9-1**] 01:30 AM
 EKG - At [**2183-9-1**] 02:30 AM
 FEVER - 101.5
F - [**2183-8-31**] 04:00 PM
   -during morning rounds, had episode of decreased O2 saturation, down to
   mid 80's.
   -tried recruitment maneuver, switched to PC mode.  Stat XR showed no
   new findings.
   -O2 sats eventually stabilized, back up to 93-94, although CO2 was
   increased with decreased pH.
   -continued tachycardia ranging high 130's to 140 throughout the day,
   has been consistent for >24 hours.
   -given 1 unit PRBC, HCT rose from 21 to 25.8.
   -HR stayed very consistently around 140 all day, blood pressure stayed
   fairly stable.
   -8 pm ABG stable - 7.15/57/70
   -at 0130, had 16 beat run of wide complex tachycardia, broke
   spontaneously after 5 seconds.  Followed closely by another [**3-23**] second
   run, and then another episode lasting several minutes.
   -antibiotics adjusted for renal dosing - assumed GFR of [**10-7**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2183-8-31**] 04:00 PM
   Cefipime - [**2183-8-31**] 08:11 PM
   Ciprofloxacin - [**2183-8-31**] 10:30 PM
   Bactrim (SMX/TMP) - [**2183-9-1**] 04:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.22 mg/Kg/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Fentanyl (Concentrate) - 450 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-31**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-1**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 135 (134 - 144) bpm
   BP: 101/67(80) {87/56(59) - 121/75(92)} mmHg
   RR: 28 (28 - 34) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 64.9 kg
   Height: 66 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  7,754 mL
                                                                  1,223 mL
   PO:
   TF:
   IVF:
                                                                  7,379 mL
                                                                  1,223 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    342 mL
                                                                    110 mL
   Urine:
                                                                    342 mL
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  7,412 mL
                                                                  1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   Compliance: 48.6 cmH2O/mL
   SpO2: 91%
   ABG: 7.14/53/67/16/-11
   Ve: 8.4 L/min
   PaO2 / FiO2: 67
   Physical Examination
   Intubated, sedated, non-responsive.  Diffusely edematous everywhere
   pronounced facial swelling
   Good air movement bilaterally, coarse dry crackles in anterior lung
   fields
   RRR, distant heart sounds, tachycardic.
   Abdomen soft, +BS
   2+ Pedal edema
   Labs / Radiology
   275 K/uL
   4.5 g/dL
   90 mg/dL
   1.9 mg/dL
   16 mEq/L
   5.6 mEq/L
   51 mg/dL
   101 mEq/L
   127 mEq/L
   25.8 %
   23.0 K/uL
        [image002.jpg]
   CXR
 increased pulmonary congestion, ETT very low, just above carina
                             [**2183-8-31**]  05:01 AM
                             [**2183-8-31**]  05:20 AM
                             [**2183-8-31**]  10:00 AM
                             [**2183-8-31**]  12:16 PM
                             [**2183-8-31**]  02:54 PM
                             [**2183-8-31**]  05:20 PM
                             [**2183-8-31**]  08:44 PM
                             [**2183-9-1**]  01:41 AM
                             [**2183-9-1**]  04:06 AM
                             [**2183-9-1**]  04:38 AM
   WBC
   23.0
   Hct
   21.0
   22
   25.8
   Plt
   275
   Cr
   1.3
   1.9
   TCO2
   20
   21
   22
   21
   21
   20
   19
   Glucose
   [**Telephone/Fax (2) 8257**]
   Other labs: PT / PTT / INR:15.1/43.0/1.3, ALT / AST:[**Telephone/Fax (1) 8242**], Alk Phos
   / T Bili:710/0.4, Amylase / Lipase:277/67, Differential-Neuts:64.0 %,
   Band:13.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:3.5
   mmol/L, Albumin:2.0 g/dL, LDH:7410 IU/L, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 INTERSTITIAL LUNG DISEASE (ILD INCLUDING IPF, UIP, NSIP, DIP, LIP,
   ETC)
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ASSESSMENT & PLAN: The patient is a 57y/o F with a PMH of recently
   diagnosed dermatomyositis and ILD admitted with progressive hypoxic
   respiratory failure found to have PCP [**Name Initial (PRE) 5925**].  Respiratory status
   worsening, now on 100% FiO2.
   .
   # Hypoxic Respiratory Failure: Intubated for increased work of
   breathing, respiratory failure.  Clinical status worsening.
   -Still on 100% FiO2, AC.  Sats overnight mostly high 80's, low 90's.
   -remains on paralytics.
   -thoracic surgery has been following.
   -on Bactrim, vanco, cefepime, cipro - all four were changed to renal
   dosing.
   -rheum continues to follow
 vanco, cefepime, cipro all discontinued yesterday. Will restart in
   light of hypotension and concern for septic shock
   -continue to follow pending cultures, recultured yesterday.
   -continue Solumedrol taper, 30 TID yesterday
   .
   #Hypotension/wide complex tachycardia: Starting at 1:30 am, had several
   episodes of wide-complex tachycardia, associated with slight decrease
   in blood pressure.
   -no intervention to this point.  Amiodarone was not considered given
   already significant hepatic injury.
   -discussed with cardiology - could consider cardioversion if necessary.
   -discussed with patient's husband - she remains DNR, but cardioversion
   is a treatment option.
   -albuterol DC-ed
   .
   #Anemia: Patient with falling crit, concerned for stress ulcer
   bleeding, stool guaiac pos.
   -received 1 unit PRBC yesterday with appropriate bump in HCT
   -will continue to trend q12h; Hct <25, will transfuse
   -continue [**Hospital1 **] PPI
   -SubQ heparin DC-ed yesterday.
   .
   # Lactic acidosis: newly developing
   -unclear source - considering hepatic hypoperfusion, infection
   -lactic acidosis could also be [**1-20**] hypovolemia/bleeding as well - HR
   130's this morning, was at 140 for all of yesterday.
   -now on pressors, avoiding fluid repletion given already massive fluid
   overload.
   .
   #Oliguric renal failure: creatinine jump from 0.4 to 1.9 in past
   several days. Likely ATN [**1-20**] poor perfusion, but could also be from
   nephrotoxicity.
   -vancomycin level dramatically elevated today.
   -try to keep maps >65 with pressors.
   -consult renal today.
   .
   #Pneumomediastinum: Noted on x-ray, followed closely over the course of
   the day yesterday with serial x-rays. (ordered in the setting of pt
   becoming more difficult to oxygenate, unlikely that this is related.)
   Pneumomediastinum likely 2/2 PEEP and PCP [**Name Initial (PRE) 8215**]. Could also be [**1-20**]
   esophageal rupture but would expect pt to be spiking temps etc.
   -seems to have stabilized - no changes on serial Xrays.
   -will re-check CXR [**Hospital1 **].
   .
   # ILD, Dermatomyositis: The patient presented with gottron's papules,
   helotropic rash, elevated CK. Underwent evaluation for malignancy with
   CT torso with question of pancreatic mass however subsequent EUS was
   negative.  Records reviewed.
 negative EUS confirmed.
   -Amylase/Lipase slightly elevated, likely [**1-20**] propofol
   -rheum says no indication for cytoxan with path data showing worsening
   ILD
   -continue to follow rheum recommendation
   .
   #transaminitis: Likely due to pentamidine, which has now been
   discontinued for 2 days.
   -RUQ yesterday showed gallbladder edema
 could very well be from
   hypoalbuminemia and generalized edema, but radiology says cannot rule
   out cholecystitis.
   -HIDA would be next step to rule this out, but given current clinical
   setting, not indicated.  ID did not feel strongly about doing this.
   -Will continue to trend LFT
s, now decreasing, but could be because of
   resolving ischemia, as proposed by hepatology
   -f/u hepatitis serologies (?reactivation in setting of steroids)
   -d/c'ed micafungin b/c can cause increase in LFT's in <5%
   .
   # leg edema: cxr does not look fluid overloaded.
   -bilateral LENI's negative and CTA all negative for DVT/PE. Maintaining
   good O2 sats on AC. Not large concern for new PE right now.
   -likely edema is [**1-20**] low albumin
     #Hyponatremia
 sodium 132 today, stable between 131-135.
   -continue to trend sodium, follow lytes.
   .
   # Osteoporosis:
   -stopped all oral meds at this point, until sure will not be
   reparalyzed
    .
   #Elevated PTT: continue to trend. seems to stay between 40-70.
   -DC-ed sub Q heparin yesterday.
   .
   #Eye care
erythromycin ophthalmic ointment
   .
    # FEN
Tube feeds DC-ed while paralyzed.  PO meds discontinued, will
   re-start when sure will not add back paralytics.  Gave lasix yesterday
   but didn't really put out. IVF boluses as needed for hypotension.
   Replete electrolytes PRN.
    #Social Support - [**First Name4 (NamePattern1) 563**] [**Last Name (NamePattern1) 564**], LICSW, #[**Numeric Identifier 565**] has been following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-8-16**] 03:43 PM
   PICC Line - [**2183-8-17**] 11:00 AM
   20 Gauge - [**2183-8-25**] 11:03 AM
   Prophylaxis:
   DVT:  boots
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:  ICU